2167-12-24 07:04:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2167-12-23**] 09:15 PM
 ARTERIAL LINE - START [**2167-12-23**] 09:27 PM
 MULTI LUMEN - START [**2167-12-23**] 09:28 PM
 PAN CULTURE - At [**2167-12-23**] 10:29 PM
   - hypernatremic to 152 this morning
   - ? intermittent arrthymia on tele
   Allergies:
   Morphine
   Unknown;
   Aspirin
   Unknown;
   Cephalosporins
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 6 mg/hour
   Fentanyl - 25 mcg/hour
   Heparin Sodium - 1,200 units/hour
   Other ICU medications:
   Midazolam (Versed) - [**2167-12-23**] 10:00 PM
   Fentanyl - [**2167-12-24**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-12-24**] 07:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.2
C (97.2
   HR: 67 (57 - 82) bpm
   BP: 159/57(91) {139/51(81) - 161/73(107)} mmHg
   RR: 20 (18 - 21) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 14 (14 - 14)mmHg
   Total In:
                                                                     22 mL
                                                                    153 mL
   PO:
   TF:
   IVF:
                                                                     22 mL
                                                                    153 mL
   Blood products:
   Total out:
                                                                    525 mL
                                                                    386 mL
   Urine:
                                                                    190 mL
                                                                    236 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -503 mL
                                                                   -233 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 37 cmH2O
   Plateau: 32 cmH2O
   Compliance: 32.4 cmH2O/mL
   SpO2: 91%
   ABG: 7.38/34/74/18/-3
   Ve: 10.5 L/min
   PaO2 / FiO2: 148
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   130 K/uL
   10.5 g/dL
   118 mg/dL
   2.6 mg/dL
   18 mEq/L
   4.1 mEq/L
   91 mg/dL
   121 mEq/L
   152 mEq/L
   32.2 %
   15.5 K/uL
        [image002.jpg]
                             [**2167-12-23**]  09:40 PM
                             [**2167-12-23**]  10:09 PM
                             [**2167-12-24**]  01:45 AM
                             [**2167-12-24**]  05:22 AM
   WBC
   13.7
   15.5
   Hct
   30.5
   32.2
   Plt
   132
   130
   Cr
   2.8
   2.6
   TCO2
   22
   21
   Glucose
   141
   118
   Other labs: PT / PTT / INR:21.5/53.9/2.0, ALT / AST:[**2-12**], Alk Phos / T
   Bili:79/0.2, Differential-Neuts:89.0 %, Band:3.0 %, Lymph:5.0 %,
   Mono:3.0 %, Eos:0.0 %, Lactic Acid:0.6 mmol/L, Albumin:3.2 g/dL,
   Ca++:8.0 mg/dL, Mg++:4.2 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   73 year-old female with a PMH history of Parkinson's, protein C/S
   deficency, multiple VTE off anticoag [**1-4**] to RP hematoma with IVC
   filter, CKD, s/p partial colectomy with ostomy who is transferred to
   the [**Hospital Unit Name 44**] from OSH ([**Hospital6 117**]) for further management
   and evaluation of septic shock and respiratory failure.
    # Sepsis/recent septic shock - Source is resistant E.coli in urine and
   sputum sent at OSH. Initially treated with vanc, levo, flagyl and
   switched to Aztreonam once sensitivities returned. B/L basilar
   infiltrates on CXR. OSH was able to wean levophed day prior to
   admission and she arrived to the ICU with SBPs in the 140s where
   pressures have been since then. Precept catheter placed at OSH and is
   s/p aggressive IVF resuscitation.  WBC increased at 15 this morning
   from 13 on admission. Vancomycin and stress dose steroids d/c'ed on
   admission here.
   - needs PICC vs PIV today and will d/c R IJ
   - IV fluid boluses and Levophed if needed to maintain MAP > 65 and UOP
   > 30cc/hr  - has not needed any overnight
   - continue aztreonam for total of 8 days
   - Follow-up blood, urine, and sputum cultures  - sputum with 4+ GNR
   likely known E.coli
   - Trend WBC count and fever curve
   - urine legionella antigen pending
   -  influenza DFA pending
   # Respiratory failure - Most recent gas with PaO2 of 64 on PEEP of 15.
   PaO2: FiO2 ration is !20 well below the 200 cut off for low volume
   ventilation  Likely not oxygenation that well [**1-4**] secreations,
   interstitial edema, PNA. Pt was initially intubated for acute hypoxemic
   respiratory failure. Oxygenation improved from onset but remains poor
   with ABG upon arrival here 7.37/37/64 on TV 550, RR 20, PEE 10 FiO2
   50%. Poor lung volumes on CXR.
   - decreased V[T] to 4cc/kg in attempt to improve oxygenation.  Will
   recheck gas 1 hour after changing vent settings and adjust accordingly
   - copious secretions suctioned, sputum cx with 4+GNR, 1+ GPC
   - given CXR with fluid overload, and hx of dCHF on home Lasix, willl
   diurese with Lasix 80mg iv x1 with goal 1-1.5L negative.  CVP currently
   12, goal is 4.
   - will discuss with daughter goals of care/early trach, has been on MV
   for 5 days ([**12-19**] day 1)
 PNA likely [**1-4**] aspiration given her
   Parkinson
s which will happen again as her disease progresses.
   # PNA - CXR with B/L basilar infiltrates. E.coli growing from sputum.
   Pt likely aspirated at her nursing home given PD.
   - will continue treatment for now with aztreonam
   - f/u sputum cultures
   - DFA for influenza pending, urine legionella antigen pending
   - no urgent need currently for bronchoscopy, will discuss in AM
   - if appears clinically worsened or secretions increase significantly,
   have low threshold for restarting vancomycin as this was d/c
ed on
   admission given E.ocli in sputum from OSH
   # Hypernatremia: 152 this morning, likely [**1-4**] to tube feeds at OSH
   - received 500cc D5W bolus this morning
   - pm lytes
   - d5W boluses prn
   # Abdominal Distension:  On Exam, ostomy has had high output but there
   appears to be a piece of stool in otsomy orifice. Also with
   asymmetrically distened abdomen around ostomy site, soft, NT
   - KUB
   - ostomy wound care c/s
   # HTN:  to 160
s this morning, clinically fluid overloaded
   - Lasix as above
   - trend
   # UTI
   - f/u urine culture
   - continue treatment with aztreonam
   # Nongap metabolic acidosis
Resolving, at 14 this morning down from 17
   on admission. Likely [**1-4**] to increased colostomy output. C.diff negative
   x 1
   - f/u repeat c. diff
   # ARF on CRI
 Improving. Thought to be [**1-4**] to ATN given
   hypotension/septic shock plus recent Toradol. Improved greatly with
   IVF.
   - continue to trend creatinine, baseline around 2, renally dose all
   meds
   # PD - Continue Sinemet and Requip
   # Protein C/S deficiency - h/o DVT and PE. INR subtherapeutic. On
   heparin gtt overnight and Coumadin held.
   - will hold heparin gtt this morning in anticipation of PICC
   placement.  Will restart after.
   - continue to hold coumadin pending discussion of trach given likely
   aspiration and high likelihood of repeat aspiration as above
   # Anemia
 32, stable. Likely chronic disease. Initial HCT was 39 at
   OSH ED, likely concentrated. Will monitor for bleeding for right now
   and trend daily HCT.
   ICU Care
   Nutrition: Nutrition c/s for tube feed recs
   Glycemic Control:  SSI
   Lines:   PICC ordered, will d/c R IJ tonight and a line after CVP
   obtained post diuresis
   Arterial Line - [**2167-12-23**] 09:27 PM
   Multi Lumen - [**2167-12-23**] 09:28 PM
   Prophylaxis:
   DVT: heparin gtt
   Stress ulcer: PPI
   VAP:  HOB elevate, daily mouth care, daily wake up RSBi when indicated
   Comments:
   Communication:  Comments:
   Code status: DNR only
 will clarify with daughter who is HCP
   Disposition: ICU

2167-12-24 09:57:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   73 yo female with Protein C + S deficiency and parkinsons disease who
   presents with prodome of malaise and found to have respiratory failure
   and diffuse pulmonary infiltrates suggesting multifocal pneumonia or
   acute lung injury.  There was no suggestion of pulmonary hemorrhage in
   sputum evaluation and analysis.  The E. Coli is significant for its
   resistance pattern and may be a consequence of patients frequent and
   past hospitalizations/institutionalization.
   24 Hour Events:
   Here she has consistent and persistent hypoxemia which may well be
   attributable to derecruitment of lung units in addition to significant
   pnuemonia which may be a combination of aspiration and persistent E.
   Coli infection.
   Overnight no events. Decr PO2 overnight despite increased PEEP
   Allergies:
   Morphine
   Unknown;
   Aspirin
   Unknown;
   Cephalosporins
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 8 mg/hour
   Fentanyl - 30 mcg/hour
   Other ICU medications:
   Fentanyl - [**2167-12-24**] 08:29 AM
   Midazolam (Versed) - [**2167-12-24**] 08:30 AM
   Other medications:
   Colace, Peridex, Heparin gtt, simvastatin, ropinorole, levodopa,
   Prevacid, RISS
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-12-24**] 09:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.8
   HR: 63 (57 - 82) bpm
   BP: 155/56(89) {139/51(81) - 161/73(107)} mmHg
   RR: 20 (18 - 21) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 12 (12 - 14)mmHg
   Total In:
                                                                     22 mL
                                                                    697 mL
   PO:
   TF:
   IVF:
                                                                     22 mL
                                                                    697 mL
   Blood products:
   Total out:
                                                                    525 mL
                                                                    936 mL
   Urine:
                                                                    190 mL
                                                                    786 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -503 mL
                                                                   -239 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 43 cmH2O
   Plateau: 33 cmH2O
   Compliance: 30.6 cmH2O/mL
   SpO2: 97%
   ABG: 7.42/33/64/18/-1
   Ve: 10.3 L/min
   PaO2 / FiO2: 128
   Physical Examination
   General Appearance: No acute distress
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : , Bronchial: ,
   Diminished: , Rhonchorous: )
   Abdominal: No(t) Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.5 g/dL
   130 K/uL
   118 mg/dL
   2.6 mg/dL
   18 mEq/L
   4.1 mEq/L
   91 mg/dL
   121 mEq/L
   152 mEq/L
   32.2 %
   15.5 K/uL
        [image002.jpg]
                             [**2167-12-23**]  09:40 PM
                             [**2167-12-23**]  10:09 PM
                             [**2167-12-24**]  01:45 AM
                             [**2167-12-24**]  05:22 AM
                             [**2167-12-24**]  08:02 AM
   WBC
   13.7
   15.5
   Hct
   30.5
   32.2
   Plt
   132
   130
   Cr
   2.8
   2.6
   TCO2
   22
   21
   22
   Glucose
   141
   118
   Other labs: PT / PTT / INR:21.5/53.9/2.0, ALT / AST:[**2-12**], Alk Phos / T
   Bili:79/0.2, Differential-Neuts:89.0 %, Band:3.0 %, Lymph:5.0 %,
   Mono:3.0 %, Eos:0.0 %, Lactic Acid:0.8 mmol/L, Albumin:3.2 g/dL,
   Ca++:8.0 mg/dL, Mg++:4.2 mg/dL, PO4:3.3 mg/dL
   Fluid analysis / Other labs: OSH sputum and urine- ESBL E.coli
   OSH echo- EF 55%, diastolic dyfxn, RV dilation
   Imaging: CXR- B effusions, interstitial edema
   Microbiology: Sputum- GNRs + GPCs
   Assessment and Plan
   RESPIRATORY FAILURE- likely underlying pneumonia as well as acute lung
   injury/ ARDS physiology, evidence of incr pulm edema
   -Pplat 30-35 on exam today --> decr Vt to 500cc and monitor plateaus,
   tolerate permissive hypercapnia
   -tx pneumonia as below
   -diurese to goal neg -1000ml/day, goal CVP near [**3-6**] as BP and UOP
   tolerate
   SEVERE SEPSIS- likely pulmonary source + urinary infection with
   possible aspiration trigger, also w/ E.coli
   -Aztreonam to continue, monitor clinically for broadening to GPC
   coverage w/ vancomycin if spikes of clinically deteriorated
   -fluid replete at this point, diuresis as above
   INFECTION CONTROL- d/c OSH central lines by the end of the day and
   obtain alternate CVC access
   POSS RECURRENT ASPIRATION- given underlying Parkinsonsim, consider
   trach to aid toilet and weaning
   -will d/w family
   HYPERNATREMIA- free H20 enterically if possible
   ABD DISTENSION- check KUB to assess poss poss stoma obstruction and
   involve Stoma RN
   -C.diff neg x1
   ACUTE RENAL FAILURE- resolving, may have chronic kidney disease and new
   set point
   -monitor w/ diuresis as above
   PROTEIN C&S DEFICIENCY- heparin gtt for now
   -IVC filter in place
   -resume anticoagulation as critical care issues resolve
   SACRAL DECUBITUS ULCER- wound care mgmt
   CODE STATUS- had been DNR/DNI, reversed at OSH. clarify w/ family
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   Arterial Line - [**2167-12-23**] 09:27 PM
   Multi Lumen - [**2167-12-23**] 09:28 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2167-12-25 10:41:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Febrile to 101.3 yest overnight, started on vancomycin and
   pan-cultured.
   Allergies:
   Morphine
   Unknown;
   Aspirin
   Unknown;
   Cephalosporins
   Unknown;
   Last dose of Antibiotics:
   Aztreonam - [**2167-12-25**] 06:02 AM
   Vancomycin - [**2167-12-25**] 08:00 AM
   Infusions:
   Fentanyl - 30 mcg/hour
   Midazolam (Versed) - 8 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2167-12-24**] 10:41 AM
   Other medications:
   Colace, Peridex, heparin gtt, Sertraline, Simvastatin, Requip, Sinemet,
   Lansoprazole
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-12-25**] 10:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 38
C (100.4
   HR: 76 (65 - 89) bpm
   BP: 99/40(57) {92/39(55) - 142/55(80)} mmHg
   RR: 26 (20 - 31) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 95.4 kg (admission): 95.8 kg
   Height: 59 Inch
   CVP: 13 (5 - 22)mmHg
   Total In:
                                                                  1,771 mL
                                                                  2,270 mL
   PO:
   TF:
                                                                     30 mL
                                                                    255 mL
   IVF:
                                                                  1,261 mL
                                                                  1,625 mL
   Blood products:
   Total out:
                                                                  3,781 mL
                                                                    815 mL
   Urine:
                                                                  3,406 mL
                                                                    565 mL
   NG:
   Stool:
                                                                    250 mL
   Drains:
   Balance:
                                                                 -2,010 mL
                                                                  1,455 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 35 cmH2O
   Plateau: 31 cmH2O
   Compliance: 31.2 cmH2O/mL
   SpO2: 94%
   ABG: 7.40/33/99.[**Numeric Identifier 128**]/19/-2
   Ve: 13.5 L/min
   PaO2 / FiO2: 198
   Physical Examination
   General Appearance: No acute distress
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: )
   Abdominal: Soft, Bowel sounds present, brown stool in ostomy bag
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Non -purposeful,
   Tone: Not assessed
   Labs / Radiology
   9.9 g/dL
   171 K/uL
   231
   2.3 mg/dL
   19 mEq/L
   3.7 mEq/L
   82 mg/dL
   115 mEq/L
   146 mEq/L
   29.3 %
   22.4 K/uL
        [image002.jpg]
                             [**2167-12-23**]  09:40 PM
                             [**2167-12-23**]  10:09 PM
                             [**2167-12-24**]  01:45 AM
                             [**2167-12-24**]  05:22 AM
                             [**2167-12-24**]  08:02 AM
                             [**2167-12-24**]  11:19 AM
                             [**2167-12-24**]  04:15 PM
                             [**2167-12-25**]  03:34 AM
                             [**2167-12-25**]  03:54 AM
                             [**2167-12-25**]  09:00 AM
   WBC
   13.7
   15.5
   22.4
   Hct
   30.5
   32.2
   29.3
   Plt
   132
   130
   171
   Cr
   2.8
   2.6
   2.4
   2.3
   TCO2
   22
   21
   22
   21
   21
   Glucose
   141
   118
   119
   149
   231
   Other labs: PT / PTT / INR:25.8/60.3/2.6, ALT / AST:[**2-12**], Alk Phos / T
   Bili:79/0.2, Differential-Neuts:89.0 %, Band:3.0 %, Lymph:5.0 %,
   Mono:3.0 %, Eos:0.0 %, Lactic Acid:0.8 mmol/L, Albumin:3.2 g/dL,
   Ca++:7.5 mg/dL, Mg++:3.5 mg/dL, PO4:3.0 mg/dL
   Imaging: KUB- unremarkable
   Microbiology: Influenza DFA- neg
   C.diff-neg
   Urine Cx- GNRs
   Sputum- GNRs, GPCs
   Repeat pan cx- sent and pending
   Assessment and Plan
   RESPIRATORY FAILURE- likely underlying pneumonia as well as acute lung
   injury, evidence of incr pulm edema
   -Pplat 30 today, cont to monitor compliance
   -tx pneumonia as below
   -will hold on further diuresis today and mmonitor
   SEVERE SEPSIS- likely pulmonary source + urinary infection with
   possible aspiration trigger, also w/ E.coli
   -Aztreonam to continue, adding vancomycin today and follow troughs
   -followup panculture
   INFECTION CONTROL- d/c OSH central lines by the end of the day and
   obtain alternate CVC access
   -place alternate CVC today
   POSS RECURRENT ASPIRATION- given underlying Parkinsonsim, consider
   trach to aid toilet and weaning
   -will d/w family
   HYPERNATREMIA- improving with free H20 enterically
   ACUTE RENAL FAILURE- resolving, may have chronic kidney disease and new
   set point
   -monitor w/ diuresis as above
    PROTEIN C&S DEFICIENCY- heparin gtt for now
   -IVC filter in place
   -resume anticoagulation as critical care issues resolve
   SACRAL DECUBITUS ULCER- wound care mgmt
   CODE STATUS- had been DNR/DNI, reversed at OSH. clarify w/ family
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2167-12-24**] 08:59 PM 30 mL/hour
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   Arterial Line - [**2167-12-23**] 09:27 PM
   Multi Lumen - [**2167-12-23**] 09:28 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2167-12-26 06:27:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 FEVER - 102.2
F - [**2167-12-26**] 05:00 AM
   - Patient was given FFP and had a femoral central line placed and her
   internal jugular line was pulled.
   - Heparin gtt was restarted after the line placement.
   Allergies:
   Morphine
   Unknown;
   Aspirin
   Unknown;
   Cephalosporins
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2167-12-25**] 08:00 AM
   Aztreonam - [**2167-12-25**] 10:17 PM
   Infusions:
   Fentanyl - 30 mcg/hour
   Midazolam (Versed) - 6 mg/hour
   Heparin Sodium - 1,350 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-12-26**] 06:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39
C (102.2
   Tcurrent: 39
C (102.2
   HR: 88 (67 - 93) bpm
   BP: 162/60(94) {99/39(57) - 177/62(95)} mmHg
   RR: 34 (24 - 34) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 95.4 kg (admission): 95.8 kg
   Height: 59 Inch
    CVP: 16 (13 - 16)mmHg
   Total In:
                                                                  3,960 mL
                                                                    766 mL
   PO:
   TF:
                                                                    546 mL
                                                                    192 mL
   IVF:
                                                                  2,072 mL
                                                                    224 mL
   Blood products:
                                                                    552 mL
   Total out:
                                                                  2,468 mL
                                                                    460 mL
   Urine:
                                                                  1,608 mL
                                                                    430 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,492 mL
                                                                    306 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 34 cmH2O
   Plateau: 29 cmH2O
   SpO2: 93%
   ABG: 7.41/34/86/18/-1
   Ve: 12.4 L/min
   PaO2 / FiO2: 172
   Physical Examination
   Gen: Unresponsive, intubated.
   Lungs: CTA b/l. No wheezes, rales, or rhonchi
   CV: RRR, normal S1 and S2, no murmurs, rubs, or gallops
   Abdomen: Soft, nondistended. Bowel sounds active. Ostomy in place
   draining brown stool. Hernia unchanged
   Extremities: Warm with 2+ edema
   Peripheral Vascular: (Right radial pulse: 2+), (Left radial pulse: 2+),
   (Right DP pulse: 2+), (Left DP pulse: 2+)
   Skin:  Not assessed
   Neurologic: Responds to: Neither voice nor pain, Movement: none, Tone:
   poor
   Labs / Radiology
   191 K/uL
   9.1 g/dL
   126 mg/dL
   2.3 mg/dL
   18 mEq/L
   3.5 mEq/L
   76 mg/dL
   120 mEq/L
   152 mEq/L
   28.0 %
   19.1 K/uL
        [image002.jpg]
                             [**2167-12-24**]  11:19 AM
                             [**2167-12-24**]  04:15 PM
                             [**2167-12-25**]  03:34 AM
                             [**2167-12-25**]  03:54 AM
                             [**2167-12-25**]  09:00 AM
                             [**2167-12-25**]  10:24 AM
                             [**2167-12-25**]  12:00 PM
                             [**2167-12-25**]  06:00 PM
                             [**2167-12-26**]  02:23 AM
                             [**2167-12-26**]  02:43 AM
   WBC
   22.4
   19.1
   Hct
   29.3
   28.0
   Plt
   171
   191
   Cr
   2.4
   2.3
   2.3
   TCO2
   21
   21
   22
   22
   Glucose
   119
   149
   231
   [**Telephone/Fax (3) 7647**]
   Other labs: PT / PTT / INR:19.9/47.9/1.9, ALT / AST:[**2-12**], Alk Phos / T
   Bili:79/0.2, Differential-Neuts:84.0 %, Band:2.0 %, Lymph:6.0 %,
   Mono:2.0 %, Eos:2.0 %, Lactic Acid:1.2 mmol/L, Albumin:3.2 g/dL,
   Ca++:7.4 mg/dL, Mg++:3.1 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   73 y/o Female with PMH of Parkinson
s dz, Protein C/S deficiency,
   Multiple VTE off anticoag [**1-4**] RP hematoma wit IVC filter, CKD, s/p
   partieal colectomy with ostomy transferred to [**Hospital Unit Name 44**] for further
   management of septic shock and respiratory failure
   # Sepsis: New fever and leukocytosis this morning suggests Aztreonam
   may not be covering all sources of infection. Sources previously found
   to be Gram negative rods in urine and sputum, but She did have 1+ GPC
   in her sputum. Blood and urine Cx taken,
   - Continue vancomycin while awaiting cultures and sensitivity
   - Will place central line today and remove RIJ line
   - Trend temp and WBC
   - Follow up blood, sputum, and urine cultures
   #Acute Respiratory failure: Current tidal volumes 500 with RR 20, PEEP
   of 15, and FiO2 of 50%. Most current ABG 7.37/ 37/ 74, which is
   appropriate for her level of sedation and respirator status.
   - Will not change any current settings
   - Will follow with respiratory
   #PNA: CXR with b/l basilar infiltrate. E. coli growing from sputum
   (multi-resistant). Given GPCs in the sputum, high WBC and fevers, this
   pneumonia could be due to staph or strep, so will continue vancomycin
   started this morning DFA negative. Legionella Ag negative
   -Continue aztreonam
   -Add vancomycin q 48 hours
   -No urgent need for bronchi
   #Anemia: Stable at 29.3 with no evidence of bleeding, so goal Hct
   should be around 25. Patient
s lactate this morning was 1.2 and ABG is
   acceptable, so patient is adequately perfusing tissue.
   -Will monitor crit q day.
   #Hypernatremia: Appears to have resolved after free water boluses
   -Continue to trend
   -D5W boluses PRN
   #Abdominal distention: KUB showed no evidence of SBO, ostomy not
   impacted per nurse
   -Continue to monitor output
   -Continue ostomy care
   Nongap metabolic acidosis: Resolved. Anion gap is 11 and patient
   patient
s acid-base status is within normal limits. ABG was normal at
   7.37/ 37/ 74. Likely secondary to increased colostomy output. C. Diff
   negative x1
   #Protein C/S deficiency: INR at 2.6. Heparin gtt overnight. No signs or
   symptoms of VTE
   - Heparin gtt held in anticipation of line placement this morning
   - Continue to hold coumadin pending discussion of trach given
   aspiration risk.
   #ARF: Improving with Cr of 2.3 down from 2.6. Likely ATN secondary to
   septic shock. Baseline of ~2 per records.
   -Continue trending creatinine
   #Parkinson
s Disease: Stable. Continue carbidopa/levodopa and Requip
   #HTN: Stable at 120/50s this morning s/p Lasix.
   -Continue monitoring.
   -Lasix PRN
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2167-12-25**] 07:00 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2167-12-23**] 09:27 PM
   Multi Lumen - [**2167-12-25**] 07:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2167-12-26 09:55:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   24 Hour Events:
 MULTI LUMEN - STOP [**2167-12-25**] 07:00 PM
 MULTI LUMEN - START [**2167-12-25**] 07:00 PM
 FEVER - 102.2
F - [**2167-12-26**] 05:00 AM
   T to 102.2
   Given tylenol.
   Had very small IJ by ultrasound which did not enlarge in trendelenburg.
   Subclavian contraindicated because of uncorrecting PT despite FFP.
   Groin line therefore only alternative.
   Allergies:
   Morphine
   Unknown;
   Aspirin
   Unknown;
   Cephalosporins
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2167-12-25**] 08:00 AM
   Aztreonam - [**2167-12-25**] 10:17 PM
   Infusions:
   Fentanyl - 30 mcg/hour
   Midazolam (Versed) - 6 mg/hour
   Heparin Sodium - 1,350 units/hour
   Other ICU medications:
   Omeprazole (Prilosec) - [**2167-12-26**] 08:22 AM
   Other medications:
   colace, simvastatin, zoloft, requip, sinemet, aztreonam
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-12-26**] 09:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39
C (102.2
   Tcurrent: 37.7
C (99.8
   HR: 84 (67 - 93) bpm
   BP: 118/48(70) {105/39(58) - 177/64(98)} mmHg
   RR: 26 (24 - 34) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 90.4 kg (admission): 95.8 kg
   Height: 59 Inch
   CVP: 16 (16 - 16)mmHg
   Total In:
                                                                  3,960 mL
                                                                  1,565 mL
   PO:
   TF:
                                                                    546 mL
                                                                    288 mL
   IVF:
                                                                  2,072 mL
                                                                    837 mL
   Blood products:
                                                                    552 mL
   Total out:
                                                                  2,468 mL
                                                                    690 mL
   Urine:
                                                                  1,608 mL
                                                                    660 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,492 mL
                                                                    875 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 36 cmH2O
   Plateau: 30 cmH2O
   SpO2: 94%
   ABG: 7.41/34/86/18/-1
   Ve: 12.7 L/min
   PaO2 / FiO2: 172
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Obese
   Extremities: Right: 1+, Left: 1+
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm
   Neurologic: Responds to: Tactile stimuli, Movement: Non -purposeful,
   Sedated, Tone: Decreased
   Labs / Radiology
   9.1 g/dL
   191 K/uL
   126 mg/dL
   2.3 mg/dL
   18 mEq/L
   3.5 mEq/L
   76 mg/dL
   120 mEq/L
   152 mEq/L
   28.0 %
   19.1 K/uL
        [image002.jpg]
                             [**2167-12-24**]  11:19 AM
                             [**2167-12-24**]  04:15 PM
                             [**2167-12-25**]  03:34 AM
                             [**2167-12-25**]  03:54 AM
                             [**2167-12-25**]  09:00 AM
                             [**2167-12-25**]  10:24 AM
                             [**2167-12-25**]  12:00 PM
                             [**2167-12-25**]  06:00 PM
                             [**2167-12-26**]  02:23 AM
                             [**2167-12-26**]  02:43 AM
   WBC
   22.4
   19.1
   Hct
   29.3
   28.0
   Plt
   171
   191
   Cr
   2.4
   2.3
   2.3
   TCO2
   21
   21
   22
   22
   Glucose
   119
   149
   231
   [**Telephone/Fax (3) 7647**]
   Other labs: PT / PTT / INR:19.9/47.9/1.9, ALT / AST:[**2-12**], Alk Phos / T
   Bili:79/0.2, Differential-Neuts:84.0 %, Band:2.0 %, Lymph:6.0 %,
   Mono:2.0 %, Eos:2.0 %, Lactic Acid:1.2 mmol/L, Albumin:3.2 g/dL,
   Ca++:7.4 mg/dL, Mg++:3.1 mg/dL, PO4:3.2 mg/dL
   Imaging: CXR - markedly improved
   Assessment and Plan
   RESPIRATORY FAILURE- likely underlying pneumonia as well as acute lung
   injury, evidence of incr pulm edema
   -Pplat 30 today, cont to monitor compliance
   -tx pneumonia as below
   -responded to diuresis with marked improvement in CXR and exam
   -lighten sedation, drop PEEP, check RSBI tomorrow AM
   SEVERE SEPSIS- likely pulmonary source + urinary infection with
   possible aspiration trigger, also w/ E.coli
   -Aztreonam to continue, adding vancomycin today and follow troughs
   -followup panculture
   POSS RECURRENT ASPIRATION- given underlying Parkinsonsim, consider
   trach to aid toilet and weaning
   -will d/w family
   HYPERNATREMIA- improving with free H20 enterically
   ACUTE RENAL FAILURE- resolving, may have chronic kidney disease and new
   set point
   -monitor w/ diuresis as above
    PROTEIN C&S DEFICIENCY- heparin gtt for now
   -IVC filter in place
   -resume anticoagulation as critical care issues resolve
   SACRAL DECUBITUS ULCER- wound care mgmt
   CODE STATUS- had been DNR/DNI, reversed at OSH. clarify w/ family
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2167-12-25**] 07:00 PM 30 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2167-12-23**] 09:27 PM
   Multi Lumen - [**2167-12-25**] 07:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Family meeting held  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2167-12-27 06:27:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2167-12-26**] 12:39 PM
   - met with daughter to determine goals of care - she is unsure right
   now, will talk to her siblings
   - Blood cx with budding yeast, started on caspofungin
   - PEEP decreased to 10 but patient became agitated, PaO2 dropped to 70
   from 86, bp increased, so PEEP turned back up to 15 and PaO2 improved
   to 81
   - pm sodium: 148 down from 152
   - cuff was calibrated with a-line and cuff was ~20 points lower than
   a-line
   - a-line d/c'ed
   Allergies:
   Morphine
   Unknown;
   Aspirin
   Unknown;
   Cephalosporins
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2167-12-25**] 08:00 AM
   Caspofungin - [**2167-12-26**] 12:21 PM
   Aztreonam - [**2167-12-27**] 06:17 AM
   Infusions:
   Heparin Sodium - 1,600 units/hour
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Omeprazole (Prilosec) - [**2167-12-26**] 08:22 AM
   Fentanyl - [**2167-12-27**] 05:17 AM
   Midazolam (Versed) - [**2167-12-27**] 05:17 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-12-27**] 06:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 38.2
C (100.7
   HR: 86 (79 - 96) bpm
   BP: 169/54(83) {125/49(69) - 194/75(102)} mmHg
   RR: 25 (21 - 31) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 90.4 kg (admission): 95.8 kg
   Height: 59 Inch
             Total In:
                                                                  3,448 mL
                                                                    817 mL
   PO:
             TF:
                                                                    720 mL
                                                                    192 mL
   IVF:
                                                                  1,688 mL
                                                                    356 mL
   Blood products:
   Total out:
                                                                  3,385 mL
                                                                    915 mL
   Urine:
                                                                  1,905 mL
                                                                    565 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     63 mL
                                                                    -98 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 35 cmH2O
   Plateau: 33 cmH2O
   Compliance: 27.8 cmH2O/mL
   SpO2: 95%
   ABG: 7.38/35/81.[**Numeric Identifier 607**]/20/-3
   Ve: 16.4 L/min
   PaO2 / FiO2: 162
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
        [image002.jpg]
                             [**2167-12-25**]  03:54 AM
                             [**2167-12-25**]  09:00 AM
                             [**2167-12-25**]  10:24 AM
                             [**2167-12-25**]  12:00 PM
                             [**2167-12-25**]  06:00 PM
                             [**2167-12-26**]  02:23 AM
                             [**2167-12-26**]  02:43 AM
                             [**2167-12-26**]  11:05 AM
                             [**2167-12-26**]  03:28 PM
                             [**2167-12-26**]  05:00 PM
   WBC
   19.1
   Hct
   28.0
   Plt
   191
   Cr
   2.3
   2.2
   TCO2
   21
   22
   22
   23
   22
   Glucose
   [**Telephone/Fax (3) 7665**]26
   149
   Other labs: PT / PTT / INR:16.2/38.6/1.4, ALT / AST:[**2-12**], Alk Phos / T
   Bili:79/0.2, Differential-Neuts:84.0 %, Band:2.0 %, Lymph:6.0 %,
   Mono:2.0 %, Eos:2.0 %, Lactic Acid:1.1 mmol/L, Albumin:3.2 g/dL,
   Ca++:7.4 mg/dL, Mg++:3.1 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   73 y/o Female with PMH of Parkinson
s dz, Protein C/S deficiency,
   Multiple VTE off anticoag [**1-4**] RP hematoma wit IVC filter, CKD, s/p
   partieal colectomy with ostomy transferred to [**Hospital Unit Name 44**] for further
   management of septic shock and respiratory failure
   # Sepsis: Leukocytosis trending downward at 19.1. Sources previously
   found to be Gram negative rods in urine and sputum, but She did have 1+
   GPC in her sputum. Sputum culture sensitivity shows sensitivity to
   meropenem, zosyn, and cephalosporins. Given patient
s allergies to beta
   lactams and improvement of WBC, will not change antibiotic regimen at
   this time. Blood and urine Cx taken, RIJ catheter tip has been cultured
   and is pending.
   - Continue vancomycin every other day and aztreonam q8h daily.
   - Trend temp and WBC
   - Follow up blood, sputum, and urine cultures
   - RIJ Catheter Cx pending
   #Acute Respiratory failure: Current tidal volumes 500 with RR 20, PEEP
   of 15, and FiO2 of 50%. Most current ABG 7.41/ 34/ 86, which is
   appropriate for her level of sedation and respirator status.
   - Can decrease the PEEP to 10cmH20 given patient
s improving
   oxygenation status
   - Will follow with respiratory
   - Will decrease level of sedation on midazolam and fentanyl
   - Will plan for RSBI on Monday in preparation for extubation
   - Will discuss with daughter today regarding need for
   #PNA: CXR yesterdaywith b/l basilar infiltrate. E. coli growing from
   sputum (multi-resistant). CXR this morning appears to have markedly
   decreased pulmonary edema. Given GPCs in the sputum, high WBC and
   fevers, this pneumonia could be due to staph or strep, so will continue
   vancomycin started this morning DFA negative. Legionella Ag negative
   -Continue aztreonam and vancomycin
   -F/U final read on today
s CXR
   -No urgent need for bronchoscopy
   #Anemia: Stable at 28 with no evidence of bleeding, so goal Hct should
   be around 25. Patient
s lactate yesterday was 1.2 and ABG is acceptable
   at 7.41/34/86, so patient is adequately perfusing tissue
   -Will monitor crit q day.
   #Hypernatremia: Now 152. This may be due to insensible water losses
   without replacement, increased hypotonic ostomy output, or may be a
   function of NS boluses given to the patient in the face of her poor
   baseline renal function. Will need to correct slowly (less than
   0.5mEq/hr)  to prevent cerebral edema.
   -Continue D5W fluid boluses- given 500mL this morning
   -Continue to trend
   #Abdominal distention: KUB showed no evidence of SBO, ostomy not
   impacted per nurse
   -Continue to monitor output
   -Continue ostomy care
   #Nongap metabolic acidosis: Resolved. Anion gap is 11 and patient
   patient
s acid-base status is within normal limits. ABG was normal at
   7.41/ 34/ 86. Likely secondary to increased colostomy output. C. Diff
   negative x1
   #Protein C/S deficiency: INR at 1.9. Heparin gtt overnight. No signs or
   symptoms of VTE
   - Will continue heparin drip
   - Continue to hold coumadin pending discussion of trach given
   aspiration risk
   #ARF: Improving with Cr of 2.3 down from 2.6 2 days ago. Likely ATN
   secondary to septic shock. Baseline of ~2 per records.
   -Continue trending creatinine
   #Parkinson
s Disease: Stable. Continue carbidopa/levodopa and Requip
   #HTN: Stable at 120/50s this morning s/p Lasix.
   -Continue monitoring.
   -Lasix PRN
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2167-12-27**] 03:01 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2167-12-25**] 07:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2167-12-27 10:31:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2167-12-26**] 12:39 PM -
   Budding Yeast on BC from [**2167-12-14**] - started on Caspo
   Requires 15 PEEP - unstable when attempt to wean to PEEP 12
                   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Morphine
   Unknown;
   Aspirin
   Unknown;
   Cephalosporins
   Unknown;
   Last dose of Antibiotics:
   Caspofungin - [**2167-12-26**] 12:21 PM
   Aztreonam - [**2167-12-27**] 06:17 AM
   Vancomycin - [**2167-12-27**] 08:26 AM
   Infusions:
   Heparin Sodium - 1,700 units/hour
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 6 mg/hour
   Other ICU medications:
   Omeprazole (Prilosec) - [**2167-12-27**] 08:26 AM
   Midazolam (Versed) - [**2167-12-27**] 09:30 AM
   Fentanyl - [**2167-12-27**] 09:46 AM
   Other medications:
   zocor, ropinerol, sinemet, prilosec
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-12-27**] 10:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.9
C (100.2
   HR: 90 (79 - 96) bpm
   BP: 159/59(82) {125/48(67) - 194/75(102)} mmHg
   RR: 28 (21 - 31) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 90.4 kg (admission): 95.8 kg
   Height: 59 Inch
             Total In:
                                                                  3,448 mL
                                                                  1,530 mL
   PO:
             TF:
                                                                    720 mL
                                                                    305 mL
   IVF:
                                                                  1,688 mL
                                                                    715 mL
   Blood products:
   Total out:
                                                                  3,385 mL
                                                                  1,220 mL
   Urine:
                                                                  1,905 mL
                                                                    720 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     63 mL
                                                                    310 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube, Other
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 35 cmH2O
   Plateau: 30 cmH2O
   Compliance: 33.3 cmH2O/mL
   SpO2: 95%
   ABG: 7.38/35/81.[**Numeric Identifier 607**]/20/-3
   Ve: 12.1 L/min
   PaO2 / FiO2: 162
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Rhonchorous: )
   Abdominal: Non-tender, Obese
   Extremities: Right: 3+, Left: 3+
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Non -purposeful, Sedated, Tone: Normal
   Labs / Radiology
   8.7 g/dL
   222 K/uL
   135 mg/dL
   2.2 mg/dL
   20 mEq/L
   3.3 mEq/L
   64 mg/dL
   119 mEq/L
   148 mEq/L
   27.9 %
   17.4 K/uL
        [image002.jpg]
                             [**2167-12-25**]  09:00 AM
                             [**2167-12-25**]  10:24 AM
                             [**2167-12-25**]  12:00 PM
                             [**2167-12-25**]  06:00 PM
                             [**2167-12-26**]  02:23 AM
                             [**2167-12-26**]  02:43 AM
                             [**2167-12-26**]  11:05 AM
                             [**2167-12-26**]  03:28 PM
                             [**2167-12-26**]  05:00 PM
                             [**2167-12-27**]  05:58 AM
   WBC
   19.1
   17.4
   Hct
   28.0
   27.9
   Plt
   191
   222
   Cr
   2.3
   2.2
   2.2
   TCO2
   22
   22
   23
   22
   Glucose
   [**Telephone/Fax (3) 7665**]26
   149
   135
   Other labs: PT / PTT / INR:16.1/58.0/1.4, ALT / AST:[**2-12**], Alk Phos / T
   Bili:79/0.2, Differential-Neuts:84.0 %, Band:2.0 %, Lymph:6.0 %,
   Mono:2.0 %, Eos:2.0 %, Lactic Acid:1.1 mmol/L, Albumin:3.2 g/dL,
   Ca++:8.2 mg/dL, Mg++:2.7 mg/dL, PO4:3.5 mg/dL
   Fluid analysis / Other labs: Vanco trough 13.0
   Assessment and Plan
   RESPIRATORY FAILURE- likely underlying pneumonia as well as acute lung
   injury, evidence of incr pulm edema
   -responded to diuresis with marked improvement in CXR and exam
    Did not tolerate dropping PEEP- ? volume status - will check CXR.
   SEVERE SEPSIS- likely pulmonary source + urinary infection with
   possible aspiration trigger, also w/ E.coli
   -Aztreonam to continue, adding vancomycin today and follow troughs
   -followup panculture
   POSS RECURRENT ASPIRATION- given underlying Parkinsonsim, consider
   trach to aid toilet and weaning
                                                      - Might also need
   G-tube if we are to proceed with long term ventilation
                                                       -will d/w family
   HYPERNATREMIA
   - improving with free H20 enterically
   ACUTE RENAL FAILUR
    E- resolving, may have chronic kidney disease and new set poin
    -monitor w/ diuresis as above. Creat stable at 2.2
   FUNGAL SEPSIS
   On Caspofungin pending ID of organism
    PROTEIN C&S DEFICIENCY- heparin gtt for now
   -IVC filter in place
    -resume anticoagulation as critical care issues resolve
   PARKINSON'S DISEASE
   Requip, Sinemet
   SACRAL DECUBITUS ULCER- wound care mgmt
   CODE STATUS- had been DNR/DNI, reversed at OSH. clarify w/ family
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2167-12-27**] 03:01 AM 30 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2167-12-25**] 07:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45

2167-12-28 05:40:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 FEVER - 101.6
F - [**2167-12-27**] 04:00 PM
   - Free water flushes increased to 200ml q6hr for hypernatremia
   - Diuresed with 40mg IV Furosemide
   Allergies:
   Morphine
   Unknown;
   Aspirin
   Unknown;
   Cephalosporins
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2167-12-27**] 08:26 AM
   Caspofungin - [**2167-12-27**] 05:51 PM
   Aztreonam - [**2167-12-27**] 10:30 PM
   Infusions:
   Midazolam (Versed) - 8 mg/hour
   Fentanyl - 100 mcg/hour
   Heparin Sodium - 1,700 units/hour
   Other ICU medications:
   Omeprazole (Prilosec) - [**2167-12-27**] 08:26 AM
   Midazolam (Versed) - [**2167-12-27**] 09:30 AM
   Fentanyl - [**2167-12-27**] 11:23 AM
   Furosemide (Lasix) - [**2167-12-27**] 05:38 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-12-28**] 05:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 37.2
C (98.9
   HR: 89 (75 - 97) bpm
   BP: 134/53(74) {115/44(61) - 169/65(88)} mmHg
   RR: 27 (24 - 32) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 90.4 kg (admission): 95.8 kg
   Height: 59 Inch
             Total In:
                                                                  3,722 mL
                                                                    721 mL
   PO:
             TF:
                                                                    720 mL
                                                                    169 mL
   IVF:
                                                                  1,842 mL
                                                                    293 mL
   Blood products:
   Total out:
                                                                  2,695 mL
                                                                    990 mL
   Urine:
                                                                  1,470 mL
                                                                    740 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,027 mL
                                                                   -269 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 36 cmH2O
   Plateau: 29 cmH2O
   Compliance: 35.7 cmH2O/mL
   SpO2: 94%
   ABG: ///20/
   Ve: 8.9 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   222 K/uL
   8.7 g/dL
   135 mg/dL
   2.2 mg/dL
   20 mEq/L
   3.3 mEq/L
   64 mg/dL
   119 mEq/L
   148 mEq/L
   27.9 %
   17.4 K/uL
        [image002.jpg]
                             [**2167-12-25**]  09:00 AM
                             [**2167-12-25**]  10:24 AM
                             [**2167-12-25**]  12:00 PM
                             [**2167-12-25**]  06:00 PM
                             [**2167-12-26**]  02:23 AM
                             [**2167-12-26**]  02:43 AM
                             [**2167-12-26**]  11:05 AM
                             [**2167-12-26**]  03:28 PM
                             [**2167-12-26**]  05:00 PM
                             [**2167-12-27**]  05:58 AM
   WBC
   19.1
   17.4
   Hct
   28.0
   27.9
   Plt
   191
   222
   Cr
   2.3
   2.2
   2.2
   TCO2
   22
   22
   23
   22
   Glucose
   [**Telephone/Fax (3) 7665**]26
   149
   135
   Other labs: PT / PTT / INR:15.9/75.2/1.4, ALT / AST:[**2-12**], Alk Phos / T
   Bili:79/0.2, Differential-Neuts:84.0 %, Band:2.0 %, Lymph:6.0 %,
   Mono:2.0 %, Eos:2.0 %, Lactic Acid:1.1 mmol/L, Albumin:3.2 g/dL,
   Ca++:8.2 mg/dL, Mg++:2.7 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   73 y/o Female with PMH of Parkinson
s dz, Protein C/S deficiency,
   Multiple VTE off anticoag [**1-4**] RP hematoma wit IVC filter, CKD, s/p
   partieal colectomy with ostomy transferred to [**Hospital Unit Name 44**] for further
   management of septic shock and respiratory failure
   # Sepsis: Leukocytosis trending downward at 17.4. Sources previously
   found to be Gram negative rods in urine and sputum, but She did have 1+
   GPC in her sputum. Sputum culture sensitivity shows sensitivity to
   meropenem, zosyn, and cephalosporins. Pt unfortunately has an allergy
   to beta lactams. Although her leukocytosis is improving she is still
   continuing to have fevers. She does have broad coverage with Vancomycin
   and Aztreonam however given her low trough levels [**Initials (NamePattern4) **] [**Last Name (NamePattern4) **]
t believe we
   are at a therapeutic level yet. It is interesting that her fever
   history appeared to start when her Vancomycin was stopped and continues
   whilst she is sub therapeutic. Will change frequency doseing to q24hr,
   even though he Creatinine Clearance is reduced I believe the change in
   dosing will be needed given her low trough levels. Will recheck levels
   tomorrow with a goal trough of 15-20. Pt also noted to have a positive
   fungal culture from [**12-23**], her subsequent bld cultures have not been
   positive however even with on positive result fungemia is a concern. Pt
   was started on Caspofungin over the weekend, will also consult ID
   regarding fungemia. The only line she has had in place for the positive
   fungal culture was her Right IJ which had only been in place <24 hours
   since admission and has been d/c
   - Given low troughs will change Vancomycin dosing frequency to qday,
   will recheck trough tomorrow AM
   - Continue aztreonam q8h daily.
   - Trend temp and WBC
   - Follow up blood, sputum, and urine cultures
   - RIJ Catheter Cx pending
   #Acute Respiratory failure: Current tidal volumes 500 with RR 20, PEEP
   of 15, and FiO2 of 50%. Over the week an attempt was made to come down
   on her PEEP to 10cmH20, unfortunately she became hypertensive and
   dropped her Pa02 on ABG. Her chest x-ray is suggestive of some
   pulmonary edema, given her multiple health issues with her resolving
   sepsis, possible fungemia will not aggressively wean pt today. She will
   need a tracheostomy however given her lack of progress on the
   ventilator, a family discussion is currently underway whether the pt
   would want this.
   - Will decrease level of sedation on midazolam and fentanyl
   - Will continue current vent settigns given her other issues
   - Will discuss with daughter today regarding need for tracheostomy
   #PNA: CXR yesterdaywith b/l basilar infiltrate. E. coli growing from
   sputum (multi-resistant). CXR this morning appears to have markedly
   decreased pulmonary edema. Given GPCs in the sputum, high WBC and
   fevers, this pneumonia could be due to staph or strep, so will continue
   vancomycin started this morning DFA negative. Legionella Ag negative
   -Continue aztreonam and vancomycin as mentioned previously
   -F/U final read on today
s CXR
   -No urgent need for bronchoscopy
   #Hypernatremia: Now 153 up from 148 even with increased free water
   administration. His hypernatremia is likely due to insensible water
   losses without replacement, increased hypotonic ostomy output, or may
   be a function of NS boluses given to the patient in the face of her
   poor baseline renal function. Will increase her free water bolus to
   200ml from q6 to q4 and assess response.
   -Increase free H20 bolus with TF to 200cc q4hrs
   -Continue to trend
   # Access: Pt currently has femoral line in place, would prefer SCL line
   particularly as we could obtain CVP reads to guide us on dirueses
   therapy. Will place SCL today, will hold heparin gtt hour prior to
   procedure. Will also transduce CVP from SCL.
   - Place SCL today
   - Obtain CVP from SCL line once placed
   #Protein C/S deficiency: INR at 1.9. Heparin gtt overnight. No signs or
   symptoms of VTE
   - Will continue heparin drip
   - Continue to hold coumadin pending discussion of trach given
   aspiration risk
   #ARF: Improving with Cr of 2.2 down from 2.3 yesterday. Likely ATN
   secondary to septic shock. Baseline of ~2 per records.
   -Continue trending creatinine
   #Parkinson
s Disease: Stable. Continue carbidopa/levodopa and Requip
   #HTN: Stable at 120/50s this morning s/p Lasix.
   -Continue monitoring.
   -Lasix PRN
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2167-12-28**] 12:52 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2167-12-25**] 07:00 PM
   Prophylaxis:
   DVT: Heparin gtt
   Stress ulcer: Lansoprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR only
   Disposition:

2167-12-28 09:25:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 FEVER - 101.6
F - [**2167-12-27**] 04:00 PM
   Hypernatremia continues despite free H2O
   Recurrent fevers noted across past 24-48 hours
   Family meeting held over weekend--Bias was towards comfort care only if
   patient not able to return to previous baseline
                          Patient unable to provide history: Sedated
   Allergies:
   Morphine
   Unknown;
   Aspirin
   Unknown;
   Cephalosporins
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2167-12-27**] 08:26 AM
   Caspofungin - [**2167-12-27**] 05:51 PM
   Aztreonam - [**2167-12-28**] 06:13 AM
   Infusions:
   Midazolam (Versed) - 8 mg/hour
   Fentanyl - 100 mcg/hour
   Heparin Sodium - 1,700 units/hour
   Other ICU medications:
   Midazolam (Versed) - [**2167-12-27**] 09:30 AM
   Fentanyl - [**2167-12-27**] 11:23 AM
   Furosemide (Lasix) - [**2167-12-27**] 05:38 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Flowsheet Data as of  [**2167-12-28**] 09:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 38.7
C (101.6
   HR: 85 (75 - 97) bpm
   BP: 129/56(74) {112/44(61) - 166/65(88)} mmHg
   RR: 32 (24 - 32) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 90.4 kg (admission): 95.8 kg
   Height: 59 Inch
             Total In:
                                                                  3,722 mL
                                                                  1,567 mL
   PO:
             TF:
                                                                    720 mL
                                                                    268 mL
   IVF:
                                                                  1,842 mL
                                                                    579 mL
   Blood products:
   Total out:
                                                                  2,695 mL
                                                                  1,215 mL
   Urine:
                                                                  1,470 mL
                                                                    915 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,027 mL
                                                                    352 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 31 cmH2O
   Plateau: 29 cmH2O
   Compliance: 35.7 cmH2O/mL
   SpO2: 94%
   ABG: ///19/
   Ve: 12.4 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Crackles : , Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Ostomy bag with
   stool and air
   Extremities: Right: 3+, Left: 3+
   Musculoskeletal: Unable to stand
   Skin:  No evidence of rash, mild erythema on left shin region
   Neurologic: Responds to: Verbal Stimuli
she will move toes on command,
   tracks to voice and this is on VERSED-8mg/hr
   Labs / Radiology
   8.3 g/dL
   222 K/uL
   121 mg/dL
   2.2 mg/dL
   19 mEq/L
   3.8 mEq/L
   59 mg/dL
   121 mEq/L
   153 mEq/L
   26.3 %
   15.7 K/uL
        [image002.jpg]
                             [**2167-12-25**]  10:24 AM
                             [**2167-12-25**]  12:00 PM
                             [**2167-12-25**]  06:00 PM
                             [**2167-12-26**]  02:23 AM
                             [**2167-12-26**]  02:43 AM
                             [**2167-12-26**]  11:05 AM
                             [**2167-12-26**]  03:28 PM
                             [**2167-12-26**]  05:00 PM
                             [**2167-12-27**]  05:58 AM
                             [**2167-12-28**]  06:01 AM
   WBC
   19.1
   17.4
   15.7
   Hct
   28.0
   27.9
   26.3
   Plt
   191
   222
   222
   Cr
   2.3
   2.2
   2.2
   2.2
   TCO2
   22
   22
   23
   22
   Glucose
   [**Telephone/Fax (3) 7675**]49
   135
   121
   Other labs: PT / PTT / INR:15.6/72.1/1.4, ALT / AST:[**2-12**], Alk Phos / T
   Bili:79/0.2, Differential-Neuts:89.4 %, Band:2.0 %, Lymph:4.6 %,
   Mono:3.8 %, Eos:1.4 %, Lactic Acid:1.1 mmol/L, Albumin:3.2 g/dL,
   Ca++:8.2 mg/dL, Mg++:2.5 mg/dL, PO4:4.0 mg/dL
   Fluid analysis / Other labs: Vanco-13.6 trough this morning
   Imaging: CXR-
   ET good position
   Bilateral central edema
   Right hilar fullness
   Microbiology: BC--Budding yeast
   Sputum---S. Aureus
   Assessment and Plan
   73 yo female s/p partial colectomy, parkinson's disease and Protein C+S
   deficiency and admitted to ICU with E. Coli sepsis from urinary
   source.
 SEPSIS WITHOUT ORGAN DYSFUNCTION--Concerning pattern of persistent
   fevers and low level bandemia noted.  This is despite optimal
   antibiotics since admission and is in the setting of drug resistant E.
   Coli identified.  She has been off pressors which has been
   encouraging.  E. Coli we have seen is sensitive to current
   antibiotics.  Of concern is the yeast seen on blood culture x1 and
   favor early intervention
   -Vanco
   -Aztreonam
   -Caspofungin to continue
   -Venous access is via femoral catheter and this will require change
   within resonable time frame with move to PICC of fevers resolve or
   repeat CVL if unable to obtain.  Will hold heparin and move to
   subclavian CVL this pm.
   -Will have ID consult for consideration of further evaluation of
   fungemia as isolated sample to consider further definition of sources.
   Optho examination today
   -Vanco redose today
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])--He has persistent tenuous
   oxygenation in the setting of elevated PEEP levels.  The original
   source for intubation was hypoxemic respiratory failure with E. Coli
   related pneumonia but now in the setting of significant volume overload
   has persistent PEEP responsive hypoxemia.  In this setting she has
   continued non-hydrostatic pulmonary edema contributing which in the
   setting of obestity and resultant chest wall restriction this will make
   ventilator weaning a challenge.
   -Will maintain even to negative fluid balance over time if BP tolerates
   and electrolytes stable will move to negative fluid balance and
   evaluate effective ventilation.
   -PEEP titration by ABG today
   -Maintain A/C support throughout sepsis
   -Is ventilator day #5
   Hypernatremia-_This persists in the setting of free H2O bolus.  There
   is clearly continued free water deficit.
   -Replace free H2O today
   -Will need to continue with regular lytes across the day with goal to
   be 145 by tomorrow am.
   Coagulopathy-
   -Heparin IV
   -Will hold for CVL
   Parkinson's Disease-
   -Sinement
   -Requip
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2167-12-28**] 12:52 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2167-12-25**] 07:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2167-12-29 06:58:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Sepsis
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2167-12-28**] 08:51 AM
 MULTI LUMEN - START [**2167-12-28**] 06:53 PM
 MULTI LUMEN - STOP [**2167-12-28**] 09:05 PM
 FEVER - 101.6
F - [**2167-12-28**] 08:00 AM
   - ID was consulted and reccomended stopping the aztreonam as it would
   generally need a second [**Doctor Last Name **] to be effective for treatment so it was
   stopped and she was started on meropenem (will need a full 10 day
   course from today for treatment).
   - Opthalmology was consulted and saw no signs of fungal infection in
   her eyes.
   - Left subclavian central line was attempted, but was not accessible.
   Right IJ was placed and her femoral line was pulled.  The right IJ
   placement was complicated by a small hematoma.  No bruit.  Pressure was
   applied and is stable.
   - A TTE was done which showed no evidence of vegetation, an EF > 55%,
   and moderate TR.
   - Her family wants to plan a family meeting for Thursday at 4 pm to
   discuss trach (their sister isn't coming until Tuesday night and they
   don't want to come in on Wednesday due to the predicted snow storm).
   - Her hypernatremia corrected with increased free water flushes
   153->144 and her free water flushes were decreased.
   - She was given 40 mg IV lasix as she was positive.
   - Vanc was changed to daily dosing.
   Allergies:
   Morphine
   Unknown;
   Aspirin
   Unknown;
   Cephalosporins
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2167-12-27**] 08:26 AM
   Aztreonam - [**2167-12-28**] 02:07 PM
   Caspofungin - [**2167-12-28**] 05:50 PM
   Meropenem - [**2167-12-28**] 05:50 PM
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 8 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2167-12-28**] 09:21 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-12-29**] 06:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 36.5
C (97.7
   HR: 74 (66 - 85) bpm
   BP: 101/46(58) {101/43(58) - 137/61(122)} mmHg
   RR: 20 (14 - 32) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 90.4 kg (admission): 95.8 kg
   Height: 59 Inch
    CVP: 9 (9 - 14)mmHg
   Total In:
                                                                  3,654 mL
                                                                    940 mL
   PO:
   TF:
                                                                    720 mL
                                                                    207 mL
   IVF:
                                                                  1,694 mL
                                                                    273 mL
   Blood products:
   Total out:
                                                                  2,800 mL
                                                                    945 mL
   Urine:
                                                                  1,850 mL
                                                                    770 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    854 mL
                                                                     -5 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 39 cmH2O
   Plateau: 32 cmH2O
   Compliance: 29.4 cmH2O/mL
   SpO2: 96%
   ABG: ///19/
   Ve: 8.4 L/min
   Physical Examination
   Gen: intubated, responds to voice.
   Lungs: scarttered crackles anteriorly an dlaterally
   CV: regaulr rate no MRG
   Abdomen: +bs, sfot, NTND, ostomy in place draining brown stool
   Extremities: warm, anasarcic, LUE 3+ edema, RUE 2+ edema
   Peripheral Vascular: 2+ distal pulses bilaterally
   Skin:  Multiple ecchymoses.
   Neurologic: sedated but alert to voice
   Labs / Radiology
   217 K/uL
   8.5 g/dL
   108 mg/dL
   1.9 mg/dL
   19 mEq/L
   3.8 mEq/L
   57 mg/dL
   115 mEq/L
   145 mEq/L
   27.0 %
   12.4 K/uL
        [image002.jpg]
                             [**2167-12-25**]  06:00 PM
                             [**2167-12-26**]  02:23 AM
                             [**2167-12-26**]  02:43 AM
                             [**2167-12-26**]  11:05 AM
                             [**2167-12-26**]  03:28 PM
                             [**2167-12-26**]  05:00 PM
                             [**2167-12-27**]  05:58 AM
                             [**2167-12-28**]  06:01 AM
                             [**2167-12-28**]  05:16 PM
                             [**2167-12-29**]  04:26 AM
   WBC
   19.1
   17.4
   15.7
   12.4
   Hct
   28.0
   27.9
   26.3
   27.0
   Plt
   191
   222
   222
   217
   Cr
   2.3
   2.2
   2.2
   2.2
   2.0
   1.9
   TCO2
   22
   23
   22
   Glucose
   160
   126
   149
   135
   121
   95
   108
   Other labs: PT / PTT / INR:13.8/26.8/1.2, ALT / AST:[**2-12**], Alk Phos / T
   Bili:79/0.2, Differential-Neuts:89.4 %, Band:2.0 %, Lymph:4.6 %,
   Mono:3.8 %, Eos:1.4 %, Lactic Acid:1.1 mmol/L, Albumin:3.2 g/dL,
   Ca++:8.1 mg/dL, Mg++:2.2 mg/dL, PO4:4.8 mg/dL
   MICRO:
   Wound tip cx: NGTD
   Blood cx [**Date range (1) 7687**]: NGTD
   Blood cx [**12-23**]: [**First Name5 (NamePattern1) **] [**Last Name (NamePattern1) 7688**]
   Urine cx: negative
   Sputum cx: GNR, S. aureus
   Assessment and Plan
 .H/O HYPERNATREMIA (HIGH SODIUM)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   73 y/o Female with PMH of Parkinson
s dz, Protein C/S deficiency,
   Multiple VTE off anticoag [**1-4**] RP hematoma wit IVC filter, CKD, s/p
   partieal colectomy with ostomy transferred to [**Hospital Unit Name 44**] for further
   management of septic shock and respiratory failure
   # Sepsis: Leukocytosis trending downward at 12.4. Sources previously
   found to be Gram negative rods in urine and sputum, but She did have 1+
   GPC in her sputum. Sputum culture sensitivity shows sensitivity to
   meropenem, zosyn, and cephalosporins. Pt unfortunately has an allergy
   to beta lactams. Although her leukocytosis is improving she is still
   continuing to have fevers. She does have broad coverage with Vancomycin
   and Aztreonam however given her low trough levels [**Initials (NamePattern4) **] [**Last Name (NamePattern4) **]
t believe we
   are at a therapeutic level yet. It is interesting that her fever
   history appeared to start when her Vancomycin was stopped and continues
   whilst she is sub therapeutic. Will change frequency doseing to q24hr,
   even though he Creatinine Clearance is reduced I believe the change in
   dosing will be needed given her low trough levels. Will recheck levels
   tomorrow with a goal trough of 15-20. Pt also noted to have a positive
   fungal culture from [**12-23**], her subsequent bld cultures have not been
   positive however even with one positive result fungemia is a concern.
   Pt was started on Caspofungin over the weekend, will also consult ID
   regarding fungemia. The only line she has had in place for the positive
   fungal culture was her Right IJ which had only been in place <24 hours
   since admission and has been d/c
   - am vanc trough was drawn too early
 will recheck random tonight and
   dose tonight is <15 (per ID recs), trough should be cheked 30-60
   minutes prior to dosing , day 1 [**2167-12-28**]
   - continue meropenem for 14 days
 day 1 [**2167-12-28**]
   - continue caspofungin for [**Female First Name (un) 188**] in blood
   - Trend temp and WBC
   - Follow up blood, sputum, and urine cultures
   - RIJ Catheter Cx pending
   - TTE was without vegatations
   #Acute Respiratory failure: Current tidal volumes 500 with RR 20, PEEP
   of 15, and FiO2 of 50%. Over the week an attempt was made to come down
   on her PEEP to 10cmH20, unfortunately she became hypertensive and
   dropped her Pa02 on ABG. Her chest x-ray is suggestive of some
   pulmonary edema, given her multiple health issues with her resolving
   sepsis, possible fungemia will not aggressively wean pt today. She will
   need a tracheostomy however given her lack of progress on the
   ventilator, a family discussion is currently underway whether the pt
   would want this.
   - CXR appears wet
 will start lasix gtt for gentle diuresis goal -1L
   today
   - after meet I/O goal, will attempt to wean PEEP to 10
   - to discuss trach with family on Thursday at 4am
   #PNA: CXR 2 days ago with b/l basilar infiltrate. E. coli growing from
   sputum (multi-resistant). CXR this morning appears to have
   Unchanged pulmonary edema from yesterday
s x-ray. Given GPCs in the
   sputum, high WBC and fevers, this pneumonia could be due to staph or
   strep, so will continue vancomycin as above. Legionella Ag negative
   - continue vanco and [**Last Name (un) 430**] as above
   #Hypernatremia: at 145 this morning, has been labile even with
   increased free water administration. Her hypernatremia is likely due to
   insensible water losses without replacement, increased hypotonic ostomy
   output, or may be a function of NS boluses given to the patient in the
   face of her poor baseline renal function. Will continue to increase her
   free water boluses to as needed and assess response.
   - free H20 bolus with TF to 200cc q4hrs
   -Continue to trend
 will get pm lytes
   # Neck Hematoma:  Developed in setting of RIJ placement.  No bruits
   - follow
   # LUE Swelling:  L >R, has anasraca so difficult to assess. Has been
   off heparin gtt in setting of neck hematoma
   - will get U/S to r/o DVT
   # Access: R IJ placed yesterday with formation of neck hematoma
   bruits
   - will place A-line today then restart heparin gtt
   #Protein C/S deficiency: INR at 1.9. Heparin gtt held overnight in
   setting of neck hematoma
 LUE appears to be slightly more swollen this
   morning
 concern for DVT given procaogulant state
   - restart heparin gtt after a-line placed
   - Continue to hold coumadin pending discussion of trach given
   aspiration risk
   #ARF: Improving with Cr of 1.9  down from 2.2 yesterday. Likely ATN
   secondary to septic shock. Baseline of ~2 per records.
   -Continue trending creatinine in setting of gentle diuresis with lasix
   gtt
   #Parkinson
s Disease: Stable. Continue carbidopa/levodopa and Requip
   #HTN: Stable at 120/50s this morning s/p Lasix.
   -Continue monitoring.
   -Lasix PRN
   - aline as above
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2167-12-28**] 12:52 AM 30 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2167-12-28**] 06:53 PM
   Prophylaxis:
   DVT: heparin gtt
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: DNR (do not resuscitate)
   Disposition:ICU

2167-12-29 10:34:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   Sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2167-12-28**] 08:51 AM
 MULTI LUMEN - START [**2167-12-28**] 06:53 PM
 MULTI LUMEN - STOP [**2167-12-28**] 09:05 PM
 FEVER - 101.6
F - [**2167-12-28**] 08:00 AM
   Fem Line D/C'd
   ECHO with no valve abnormalities
   Meropenem started for Aztreonam
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Morphine
   Unknown;
   Aspirin
   Unknown;
   Cephalosporins
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2167-12-27**] 08:26 AM
   Aztreonam - [**2167-12-28**] 02:07 PM
   Meropenem - [**2167-12-28**] 05:50 PM
   Caspofungin - [**2167-12-28**] 05:50 PM
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 8 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2167-12-28**] 09:21 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Genitourinary: Foley
   Flowsheet Data as of  [**2167-12-29**] 10:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37.2
C (98.9
   HR: 77 (66 - 82) bpm
   BP: 118/59(74) {101/43(58) - 137/61(122)} mmHg
   RR: 24 (14 - 24) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 90.4 kg (admission): 95.8 kg
   Height: 59 Inch
   CVP: 9 (9 - 14)mmHg
   Total In:
                                                                  3,654 mL
                                                                  1,167 mL
   PO:
   TF:
                                                                    720 mL
                                                                    306 mL
   IVF:
                                                                  1,694 mL
                                                                    402 mL
   Blood products:
   Total out:
                                                                  2,800 mL
                                                                  1,055 mL
   Urine:
                                                                  1,850 mL
                                                                    880 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    854 mL
                                                                    112 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   Plateau: 32 cmH2O
   Compliance: 29.4 cmH2O/mL
   SpO2: 98%
   ABG: ///19/
   Ve: 13.1 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
she does clearly follow commands with movement of lower
   extremities
   Labs / Radiology
   8.5 g/dL
   217 K/uL
   108 mg/dL
   1.9 mg/dL
   19 mEq/L
   3.8 mEq/L
   57 mg/dL
   115 mEq/L
   145 mEq/L
   27.0 %
   12.4 K/uL
        [image002.jpg]
                             [**2167-12-25**]  06:00 PM
                             [**2167-12-26**]  02:23 AM
                             [**2167-12-26**]  02:43 AM
                             [**2167-12-26**]  11:05 AM
                             [**2167-12-26**]  03:28 PM
                             [**2167-12-26**]  05:00 PM
                             [**2167-12-27**]  05:58 AM
                             [**2167-12-28**]  06:01 AM
                             [**2167-12-28**]  05:16 PM
                             [**2167-12-29**]  04:26 AM
   WBC
   19.1
   17.4
   15.7
   12.4
   Hct
   28.0
   27.9
   26.3
   27.0
   Plt
   191
   222
   222
   217
   Cr
   2.3
   2.2
   2.2
   2.2
   2.0
   1.9
   TCO2
   22
   23
   22
   Glucose
   160
   126
   149
   135
   121
   95
   108
   Other labs: PT / PTT / INR:13.8/26.8/1.2, ALT / AST:[**2-12**], Alk Phos / T
   Bili:79/0.2, Differential-Neuts:89.4 %, Band:2.0 %, Lymph:4.6 %,
   Mono:3.8 %, Eos:1.4 %, Lactic Acid:1.1 mmol/L, Albumin:3.2 g/dL,
   Ca++:8.1 mg/dL, Mg++:2.2 mg/dL, PO4:4.8 mg/dL
   Imaging: CXR-CVl and ETT in good position
   Mild left sided infiltrate
   Microbiology: BC--[**First Name5 (NamePattern1) **] [**Last Name (NamePattern1) **]
   Blood Cultures-No bacterial culture
   Sputum-E. Coli
   Urine-E. Coli
   Assessment and Plan
   73 yo female admit with a history of PD and presenting with respiratory
   failure and sepsis with concerning findings of fungus in blood leading
   to change in CVL and move to Meropenem in the setting of resistant E.
   Coli species.  She has had rather persistent and elevated PEEP
   requirements with hypoxemia noted.  Vanco dosing has also been adjusted
   based upon trough with most recent dosing yesterday.
   1)Sepsis--E. Coli in sputum and urine but not in blood as measured
   -caspofungin
   -Vanco
   -Meropenem
now all at current optimal dosing and antibiotic choices
   -Optho exam with no evidence of fungal involvement in the eye
   -We do appreciate ID input
 .H/O HYPERNATREMIA (HIGH SODIUM)-
   -Free water bolus has improved to 145 and will continue
 SEPSIS WITHOUT ORGAN DYSFUNCTION
see above
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   -Persistent hypoxemia and increasing secretions are the primary
   barriers to extubation
these may be related issues and exclusive but
   with significant volume overload a modifiable variable this would be a
   goal to move to limit needs for ventilatory support.
   -Will move to diuresis today as possible given need to work to wean
   towards trial of extubation
   -VAP coverage is reasonable as defined above and will be important to
   maintain throughout
   -With CVL in place patient will now require a good move to diuresis
   -A-line to be replaced
   Hematoma
   -In area of CVL placement
stable overnight
   -In the setting of protein C+S deficiency will return to heparin today.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2167-12-28**] 12:52 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2167-12-28**] 06:53 PM
   Prophylaxis:
   DVT: Hepain gtt to return
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:  Will continue with optimal and maximal care
   with antibiotics dosed and chosen optimally for all known pathogens.
   She has diuresis to be attempted agressively in the setting of
   creatinine improvement to baseline and need for fluid removal will move
   to lasix gtt.  Will look to family meeting for summary of progress and
   expected future course to determine goals of care.
   Code status: DNR
but remain intubated
   Disposition :ICU
   Total time spent: 45

2167-12-30 07:35:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - START [**2167-12-29**] 01:45 PM
   - A-line placed
   - heparin gtt restarted
   - diuresed -800 for 24 hours
   - PEEP decreased to 13 and Pa)2 dropped 122--->70's
   - ID rec: recheck random vanco level tonight and dose tonight is <15
   - blood cx prelim:  no fungal or mycobacterial  growth.  PM vanco level
   21, will restart this morning.
   - wound tip cx prelim:  no growth
   - sputum with MRSA
   Allergies:
   Morphine
   Unknown;
   Aspirin
   Unknown;
   Cephalosporins
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2167-12-27**] 08:26 AM
   Aztreonam - [**2167-12-28**] 02:07 PM
   Caspofungin - [**2167-12-28**] 05:50 PM
   Meropenem - [**2167-12-29**] 08:00 PM
   Infusions:
   Heparin Sodium - 1,700 units/hour
   Midazolam (Versed) - 8 mg/hour
   Furosemide (Lasix) - 9 mg/hour
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2167-12-29**] 11:20 AM
   Fentanyl - [**2167-12-29**] 05:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-12-30**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.2
C (99
   HR: 76 (73 - 85) bpm
   BP: 111/46(65) {106/40(59) - 129/52(75)} mmHg
   RR: 22 (12 - 31) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 90.4 kg (admission): 95.8 kg
   Height: 59 Inch
    CVP: 6 (4 - 12)mmHg
   Total In:
                                                                  3,007 mL
                                                                  1,169 mL
   PO:
   TF:
                                                                    720 mL
                                                                    227 mL
   IVF:
                                                                  1,277 mL
                                                                    492 mL
   Blood products:
   Total out:
                                                                  3,815 mL
                                                                  1,240 mL
   Urine:
                                                                  3,140 mL
                                                                  1,090 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -808 mL
                                                                    -71 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 38 cmH2O
   SpO2: 94%
   ABG: 7.37/33/76.[**Numeric Identifier 128**]/18/-4
   Ve: 8.5 L/min
   PaO2 / FiO2: 152
   Physical Examination
   Gen: intubated, responds to voice.
   Lungs: scarttered crackles anteriorly an dlaterally
   CV: regaulr rate no MRG
   Abdomen: +bs, sfot, NTND, ostomy in place draining brown stool
   Extremities: warm, anasarcic, LUE 3+ edema, RUE 2+ edema
   Peripheral Vascular: 2+ distal pulses bilaterally
   Skin:  Multiple ecchymoses.
   Neurologic: sedated but alert to voice
   Labs / Radiology
   227 K/uL
   8.1 g/dL
   94 mg/dL
   2.1 mg/dL
   18 mEq/L
   3.3 mEq/L
   54 mg/dL
   112 mEq/L
   144 mEq/L
   25.3 %
   13.1 K/uL
        [image002.jpg]
                             [**2167-12-27**]  05:58 AM
                             [**2167-12-28**]  06:01 AM
                             [**2167-12-28**]  05:16 PM
                             [**2167-12-29**]  04:26 AM
                             [**2167-12-29**]  06:08 PM
                             [**2167-12-29**]  09:06 PM
                             [**2167-12-30**]  12:06 AM
                             [**2167-12-30**]  01:47 AM
                             [**2167-12-30**]  05:26 AM
                             [**2167-12-30**]  05:49 AM
   WBC
   17.4
   15.7
   12.4
   13.1
   Hct
   27.9
   26.3
   27.0
   25.3
   Plt
   222
   222
   217
   227
   Cr
   2.2
   2.2
   2.0
   1.9
   2.0
   2.1
   TCO2
   20
   21
   20
   20
   Glucose
   135
   121
   95
   108
   108
   94
   Other labs: PT / PTT / INR:15.1/80.7/1.3, ALT / AST:[**2-12**], Alk Phos / T
   Bili:79/0.2, Differential-Neuts:89.4 %, Band:2.0 %, Lymph:4.6 %,
   Mono:3.8 %, Eos:1.4 %, Lactic Acid:1.1 mmol/L, Albumin:3.2 g/dL,
   Ca++:7.6 mg/dL, Mg++:1.9 mg/dL, PO4:1.0 mg/dL
   Assessment and Plan
 .H/O HYPERNATREMIA (HIGH SODIUM)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   73 y/o Female with PMH of Parkinson
s dz, Protein C/S deficiency,
   Multiple VTE off anticoag [**1-4**] RP hematoma wit IVC filter, CKD, s/p
   partieal colectomy with ostomy transferred to [**Hospital Unit Name 44**] for further
   management of septic shock and respiratory failure
   # Sepsis: Leukocytosis trending downward at 12.4. Sources previously
   found to be Gram negative rods in urine and sputum, but She did have 1+
   GPC in her sputum. Sputum culture sensitivity shows sensitivity to
   meropenem, zosyn, and cephalosporins. Pt unfortunately has an allergy
   to beta lactams. Her leukocytosis continues to improve and she has been
   afebrile since becoming therapeutic on her Vancomycin it seems.  MRSA
   screen and sputum cultures now show MRSA +. Will continue Vancomycin
   coverage  and Meropenem Aztreonam for her resistant E. Coli strain.
   Given her low troughs on however given her low trough levels [**Initials (NamePattern4) **] [**Last Name (NamePattern4) **]
   believe we are at a therapeutic level yet. It is interesting that her
   fever history appeared to start when her Vancomycin was stopped and
   continues whilst she is sub therapeutic. Will change frequency doseing
   to q24hr, even though he Creatinine Clearance is reduced I believe the
   change in dosing will be needed given her low trough levels. Will
   recheck levels tomorrow with a goal trough of 15-20. Pt also noted to
   have a positive fungal culture from [**12-23**], her subsequent bld cultures
   have not been positive however even with one positive result fungemia
   is a concern. Pt was started on Caspofungin over the weekend, will also
   consult ID regarding fungemia. The only line she has had in place for
   the positive fungal culture was her Right IJ which had only been in
   place <24 hours since admission and has been d/c
   - am vanc trough was drawn too early
 will recheck random tonight and
   dose tonight is <15 (per ID recs), trough should be cheked 30-60
   minutes prior to dosing , day 1 [**2167-12-28**]
   - continue meropenem for 14 days
 day 1 [**2167-12-28**]
   - continue caspofungin for [**Female First Name (un) 188**] in blood
   - Trend temp and WBC
   - Follow up blood, sputum, and urine cultures
   - RIJ Catheter Cx pending
   - TTE was without vegatations
   #Acute Respiratory failure: Current tidal volumes 500 with RR 20, PEEP
   of 15, and FiO2 of 50%. Over the week an attempt was made to come down
   on her PEEP to 10cmH20, unfortunately she became hypertensive and
   dropped her Pa02 on ABG. Her chest x-ray is suggestive of some
   pulmonary edema, given her multiple health issues with her resolving
   sepsis, possible fungemia will not aggressively wean pt today. She will
   need a tracheostomy however given her lack of progress on the
   ventilator, a family discussion is currently underway whether the pt
   would want this.
   - CXR appears wet
 will start lasix gtt for gentle diuresis goal -1L
   today
   - after meet I/O goal, will attempt to wean PEEP to 10
   - to discuss trach with family on Thursday at 4am
   #PNA: CXR 2 days ago with b/l basilar infiltrate. E. coli growing from
   sputum (multi-resistant). CXR this morning appears to have
   Unchanged pulmonary edema from yesterday
s x-ray. Given GPCs in the
   sputum, high WBC and fevers, this pneumonia could be due to staph or
   strep, so will continue vancomycin as above. Legionella Ag negative
   - continue vanco and [**Last Name (un) 430**] as above
   #Hypernatremia: at 145 this morning, has been labile even with
   increased free water administration. Her hypernatremia is likely due to
   insensible water losses without replacement, increased hypotonic ostomy
   output, or may be a function of NS boluses given to the patient in the
   face of her poor baseline renal function. Will continue to increase her
   free water boluses to as needed and assess response.
   - free H20 bolus with TF to 200cc q4hrs
   -Continue to trend
 will get pm lytes
   # Neck Hematoma:  Developed in setting of RIJ placement.  No bruits
   - follow
   # LUE Swelling:  L >R, has anasraca so difficult to assess. Has been
   off heparin gtt in setting of neck hematoma
   - will get U/S to r/o DVT
   # Access: R IJ placed yesterday with formation of neck hematoma
   bruits
   - will place A-line today then restart heparin gtt
   #Protein C/S deficiency: INR at 1.9. Heparin gtt held overnight in
   setting of neck hematoma
 LUE appears to be slightly more swollen this
   morning
 concern for DVT given procaogulant state
   - restart heparin gtt after a-line placed
   - Continue to hold coumadin pending discussion of trach given
   aspiration risk
   #ARF: Improving with Cr of 1.9  down from 2.2 yesterday. Likely ATN
   secondary to septic shock. Baseline of ~2 per records.
   -Continue trending creatinine in setting of gentle diuresis with lasix
   gtt
   #Parkinson
s Disease: Stable. Continue carbidopa/levodopa and Requip
   #HTN: Stable at 120/50s this morning s/p Lasix.
   -Continue monitoring.
   -Lasix PRN
   - aline as above
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2167-12-29**] 10:12 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2167-12-28**] 06:53 PM
   Arterial Line - [**2167-12-29**] 01:45 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2167-12-30 11:20:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   Sepsis
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ARTERIAL LINE - START [**2167-12-29**] 01:45 PM
   I/O negative 800cc!!
   PEEP decrease to 13
   Sputum cultures with MRSA obtained
   NO Fever x 24 hours!
   History obtained from Medical records
   Allergies:
   Morphine
   Unknown;
   Aspirin
   Unknown;
   Cephalosporins
   Unknown;
   Last dose of Antibiotics:
   Aztreonam - [**2167-12-28**] 02:07 PM
   Caspofungin - [**2167-12-28**] 05:50 PM
   Meropenem - [**2167-12-29**] 08:00 PM
   Infusions:
   Heparin Sodium - 1,700 units/hour
   Midazolam (Versed) - 8 mg/hour
   Furosemide (Lasix) - 9 mg/hour
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2167-12-29**] 11:20 AM
   Fentanyl - [**2167-12-29**] 05:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-12-30**] 11:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.3
C (99.1
   HR: 79 (74 - 85) bpm
   BP: 103/42(61) {103/40(59) - 130/52(75)} mmHg
   RR: 25 (12 - 31) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 90.4 kg (admission): 95.8 kg
   Height: 59 Inch
   CVP: 12 (4 - 12)mmHg
   Total In:
                                                                  3,007 mL
                                                                  1,529 mL
   PO:
   TF:
                                                                    720 mL
                                                                    331 mL
   IVF:
                                                                  1,277 mL
                                                                    718 mL
   Blood products:
   Total out:
                                                                  3,815 mL
                                                                  1,940 mL
   Urine:
                                                                  3,140 mL
                                                                  1,790 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -808 mL
                                                                   -411 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 34 cmH2O
   SpO2: 94%
   ABG: 7.37/33/76.[**Numeric Identifier 128**]/18/-4
   Ve: 9 L/min
   PaO2 / FiO2: 152
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 3+, Left: 3+
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Purposeful, Tone:
   Not assessed
   Labs / Radiology
   8.1 g/dL
   227 K/uL
   94 mg/dL
   2.1 mg/dL
   18 mEq/L
   3.3 mEq/L
   54 mg/dL
   112 mEq/L
   144 mEq/L
   25.3 %
   13.1 K/uL
        [image002.jpg]
                             [**2167-12-27**]  05:58 AM
                             [**2167-12-28**]  06:01 AM
                             [**2167-12-28**]  05:16 PM
                             [**2167-12-29**]  04:26 AM
                             [**2167-12-29**]  06:08 PM
                             [**2167-12-29**]  09:06 PM
                             [**2167-12-30**]  12:06 AM
                             [**2167-12-30**]  01:47 AM
                             [**2167-12-30**]  05:26 AM
                             [**2167-12-30**]  05:49 AM
   WBC
   17.4
   15.7
   12.4
   13.1
   Hct
   27.9
   26.3
   27.0
   25.3
   Plt
   222
   222
   217
   227
   Cr
   2.2
   2.2
   2.0
   1.9
   2.0
   2.1
   TCO2
   20
   21
   20
   20
   Glucose
   135
   121
   95
   108
   108
   94
   Other labs: PT / PTT / INR:15.1/80.7/1.3, ALT / AST:[**2-12**], Alk Phos / T
   Bili:79/0.2, Differential-Neuts:89.4 %, Band:2.0 %, Lymph:4.6 %,
   Mono:3.8 %, Eos:1.4 %, Lactic Acid:1.1 mmol/L, Albumin:3.2 g/dL,
   Ca++:7.6 mg/dL, Mg++:1.9 mg/dL, PO4:1.0 mg/dL
   Fluid analysis / Other labs: Vanco==3.6 today
   ABG-7.37/33/76
   Imaging: UE--U/S--no DVT
   Assessment and Plan
   73 yo female with history of parkinson's disease and now admitted with
   E. Coli pneumonia and UTI with now evolution of MRSA in sputum in the
   setting of persistent fevers.  She has had resonable tolerance of move
   to diuresis and PEEP wean with small changes attempted to date but
   without durable improvement in oxygenation.  She has ongoing and
   persistent poor compliance and continued MRSA culture in sputum
 .H/O HYPERNATREMIA (HIGH SODIUM)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   -caspofungin
   -Vanco
   -Zosyn
   -Improved hemodynamic stability
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])-
   -Will continue Vancomycin/Meropenem for pulmonary pathogens
   -Will continue to attempt diuresis
   -Continue with PEEP at current settings and re-trial decrease as
   compliance improves
   Acute Renal Failure/Chronic Renal failure
   -Near baseline despite diruesis
   -Likely ATN and pre-renal failure in the setting of Sepsis
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2167-12-29**] 10:12 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2167-12-28**] 06:53 PM
   Arterial Line - [**2167-12-29**] 01:45 PM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:  Patient with family meeting scheduled for
   [**2167-12-31**] and will discuss current clinical course, expected outcome and
   patient goals to determine end points for treatment going forward.
   Code status: DNR
   Disposition : ICU
   Total time spent: 35

2167-12-31 09:55:00 Physician Attending Progress Note
Chief Complaint: respiratory Failure
   Sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2167-12-30**] 01:50 PM
   Vanco change to Linezolid
   Lasix gtt increased but with hypotension limiting continued diuresis
   PEEP decrease to 13
   ABG-PO2-remained at 84 with decrease
   History obtained from [**Hospital 85**] Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Morphine
   Unknown;
   Aspirin
   Unknown;
   Cephalosporins
   Unknown;
   Last dose of Antibiotics:
   Aztreonam - [**2167-12-28**] 02:07 PM
   Vancomycin - [**2167-12-30**] 12:00 PM
   Caspofungin - [**2167-12-30**] 07:13 PM
   Linezolid - [**2167-12-31**] 02:00 AM
   Meropenem - [**2167-12-31**] 08:16 AM
   Infusions:
   Midazolam (Versed) - 8 mg/hour
   Heparin Sodium - 1,700 units/hour
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2167-12-31**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Flowsheet Data as of  [**2167-12-31**] 09:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 37.2
C (98.9
   HR: 75 (73 - 86) bpm
   BP: 93/37(54) {91/34(52) - 130/52(76)} mmHg
   RR: 23 (12 - 30) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 90.4 kg (admission): 95.8 kg
   Height: 59 Inch
   CVP: 11 (5 - 12)mmHg
   Total In:
                                                                  4,610 mL
                                                                  1,316 mL
   PO:
   TF:
                                                                    720 mL
                                                                    288 mL
   IVF:
                                                                  2,950 mL
                                                                    938 mL
   Blood products:
   Total out:
                                                                  4,950 mL
                                                                    990 mL
   Urine:
                                                                  3,960 mL
                                                                    670 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -340 mL
                                                                    326 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 13 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 29 cmH2O
   Plateau: 25 cmH2O
   Compliance: 41.7 cmH2O/mL
   SpO2: 97%
   ABG: 7.37/34/105/18/-4
   Ve: 18.5 L/min
   PaO2 / FiO2: 210
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.5 g/dL
   246 K/uL
   142 mg/dL
   1.8 mg/dL
   18 mEq/L
   3.7 mEq/L
   47 mg/dL
   106 mEq/L
   139 mEq/L
   23.4 %
   12.6 K/uL
        [image002.jpg]
                             [**2167-12-30**]  12:06 AM
                             [**2167-12-30**]  01:47 AM
                             [**2167-12-30**]  05:26 AM
                             [**2167-12-30**]  05:49 AM
                             [**2167-12-30**]  07:12 AM
                             [**2167-12-30**]  04:04 PM
                             [**2167-12-30**]  04:30 PM
                             [**2167-12-30**]  07:47 PM
                             [**2167-12-31**]  04:00 AM
                             [**2167-12-31**]  04:05 AM
   WBC
   13.1
   12.6
   Hct
   25.3
   23.4
   Plt
   227
   246
   Cr
   2.1
   1.9
   1.8
   TCO2
   21
   20
   20
   21
   20
   20
   Glucose
   94
   101
   121
   142
   Other labs: PT / PTT / INR:14.7/80.9/1.3, ALT / AST:[**2-12**], Alk Phos / T
   Bili:79/0.2, Differential-Neuts:89.4 %, Band:2.0 %, Lymph:4.6 %,
   Mono:3.8 %, Eos:1.4 %, Lactic Acid:1.1 mmol/L, Albumin:3.2 g/dL,
   Ca++:7.8 mg/dL, Mg++:2.0 mg/dL, PO4:4.9 mg/dL
   Imaging: CXR--No new
   Assessment and Plan
   73 yo female with history of Parkinson's Disease and Protein C+S
   Deficiency now admitted with sepsis and respiratory failure with
   persistent hypoxemia and volume overload.  She has had some capacity
   for diuresis tolerated only to about 500cc negative.  She has been able
   to maintain adequate oxygenation with decreaed PEEP  but likely
   prolonged course with high risk of recurrent infections and
   complications given persistent critical illlness.
   1)Respiratory Failure--Persistent hypoxemic respiratory failure with
   elevated PEEP requirements--we have effected mild diuresis and been
   able to decrease PEEP to 13 which is a small change.  There is a
   persistent elevation in Ve requirement to 13.  She had PO2=105 with
   PEEP=13.  Will utilize PIP of 28 to guide move to PSV to attempt
   weaning in the setting of persistent high ventilatory and PEEP
   requirements
   -Move to PSV 15/13
   -Look to wean PEEP to 10 today
   -Will decrease PSV as tolerated
   -Mental status remains reasonable in terms of responsiveness but we do
   need to determine cough/gag, etc. to allow consideration of extubation
   which seems unlikely to be effected substantially unless significant
   improvement results
   -Even flulid balance today
   2)Sepsis
GNR in urine and sputum
subsequent development of MRSA in
   sputum and move to Linezolid for better pulmonary penetration so will
   continue with
   Caspofungin #6
   Linezolid #2
   Meropenem #5
   And monitor for possible evolution of fevers
as the persistent low
   grade fevers are of concern.
   3)Parkinson's Disease-
   -Sinemet
   -Requip
 .H/O HYPERNATREMIA (HIGH SODIUM)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2167-12-30**] 07:31 PM 30 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2167-12-28**] 06:53 PM
   Arterial Line - [**2167-12-29**] 01:45 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:  Family meeting for today
   Code status: DNR/Remain intubated
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2168-01-01 06:12:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - She was changed to PS 15/13, however did not tolerate this and had to
   be changed back to CMV/Assist with a PEEP of 13.  Continued to desat to
   the high 80's and her FiO2 was increased to 60%.  Later in the night
   she began desating again and her PEEP was increased to 15.
   - A family meeting was held and the family decided to discuss trach
   placement further and the plan is for another family meeting next
   Monday at 4 pm.  They also decided to reverse her code status and make
   her full code until further dicussion takes place.
   - A lactate was checked and was normal at 0.8.
   - Goal of I/O even - pharmacy will try to concentrate her antibiotics.
   She was started on a low-dose lasix gtt, however she was net positive
   and her SBPs remained in the low 90's the lasix gtt was unable to be
   uptitrated.
   Allergies:
   Morphine
   Unknown;
   Aspirin
   Unknown;
   Cephalosporins
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2167-12-30**] 12:00 PM
   Caspofungin - [**2167-12-31**] 06:01 PM
   Meropenem - [**2167-12-31**] 08:37 PM
   Linezolid - [**2168-1-1**] 01:47 AM
   Infusions:
   Furosemide (Lasix) - 3 mg/hour
   Fentanyl - 100 mcg/hour
   Heparin Sodium - 1,700 units/hour
   Midazolam (Versed) - 8 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2167-12-31**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-1-1**] 06:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 36.6
C (97.9
   HR: 83 (70 - 88) bpm
   BP: 130/49(74) {91/34(52) - 141/54(79)} mmHg
   RR: 33 (20 - 36) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 90.4 kg (admission): 95.8 kg
   Height: 59 Inch
    CVP: -4 (-4 - 158)mmHg
   Total In:
                                                                  3,899 mL
                                                                    844 mL
   PO:
   TF:
                                                                    724 mL
                                                                    184 mL
   IVF:
                                                                  2,425 mL
                                                                    660 mL
   Blood products:
   Total out:
                                                                  2,755 mL
                                                                    340 mL
   Urine:
                                                                  1,960 mL
                                                                    340 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,144 mL
                                                                    504 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   PS : 15 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 36 cmH2O
   Plateau: 34 cmH2O
   Compliance: 26.3 cmH2O/mL
   SpO2: 97%
   ABG: 7.39/32/71/18/-4
   Ve: 13.9 L/min
   PaO2 / FiO2: 118
   Physical Examination
   Gen: Elderly female, intubated, lying in bed in NAD
   HEENT: PEERL
   Lungs: a few coarse breath sounds anteriorly
   CV: RRR, no MRG
   Abdomen: + BS, soft, NTND, ostomy in place draining brown stool
   Extremities: warm, anasarcic, LUE 3+ edema, RUE 2+ edema
   Peripheral Vascular: 2+ distal pulses bilaterally
   Skin:  Multiple ecchymoses.
   Neurologic: Alert, eyes open spontaneously, nods to questions, and
   follows some commands.
   Labs / Radiology
   235 K/uL
   7.6 g/dL
   135 mg/dL
   1.7 mg/dL
   18 mEq/L
   3.4 mEq/L
   39 mg/dL
   107 mEq/L
   136 mEq/L
   22.4 %
   11.0 K/uL
        [image002.jpg]
                             [**2167-12-30**]  05:26 AM
                             [**2167-12-30**]  05:49 AM
                             [**2167-12-30**]  07:12 AM
                             [**2167-12-30**]  04:04 PM
                             [**2167-12-30**]  04:30 PM
                             [**2167-12-30**]  07:47 PM
                             [**2167-12-31**]  04:00 AM
                             [**2167-12-31**]  04:05 AM
                             [**2168-1-1**]  03:31 AM
                             [**2168-1-1**]  04:00 AM
   WBC
   13.1
   12.6
   11.0
   Hct
   25.3
   23.4
   22.4
   Plt
   227
   246
   235
   Cr
   2.1
   1.9
   1.8
   1.7
   TCO2
   20
   21
   20
   20
   20
   Glucose
   94
   101
   121
   142
   135
   Other labs: PT / PTT / INR:13.9/68.7/1.2, ALT / AST:[**2-12**], Alk Phos / T
   Bili:79/0.2, Differential-Neuts:89.4 %, Band:2.0 %, Lymph:4.6 %,
   Mono:3.8 %, Eos:1.4 %, Lactic Acid:0.8 mmol/L, Albumin:3.2 g/dL,
   Ca++:7.8 mg/dL, Mg++:1.9 mg/dL, PO4:4.5 mg/dL
   Assessment and Plan
   73 y/o Female with PMH of Parkinson
s dz, Protein C/S deficiency,
   Multiple VTE off anticoag [**1-4**] RP hematoma wit IVC filter, CKD, s/p
   partieal colectomy with ostomy transferred to [**Hospital Unit Name 44**] for further
   management of septic shock and respiratory failure
   # Sepsis: Leukocytosis stable at 12.6. Sources previously found to be
   Gram negative rods in urine and sputum, but She did have 1+ GPC in her
   sputum. Sputum culture sensitivity shows sensitivity to meropenem,
   zosyn, and cephalosporins. Pt unfortunately has an allergy to beta
   lactams.  MRSA screen and sputum cultures now show MRSA +.  Pt also
   noted to have a positive fungal culture from [**12-23**], her subsequent bld
   cultures have not been positive however even with one positive result
   fungemia is a concern. Pt was started on Caspofungin over the weekend,
   ID was consulted and is and signed off yesterday. Sensitivities fort
   Voriconazole and Fluconazole have been ordered will f/u.
   - Appreciate ID recs, recommended switching to Linezolid for MRSA PNA
   coverage rather than Vancomycin given it
s increased efficacy.
   Continue linezolid for 14 days for MRSA PNA
 day 1- [**2167-12-30**].
   - continue meropenem for 14 days
 day 1 [**2167-12-28**]
   - continue caspofungin for [**Female First Name (un) 188**] in blood
 day 1 [**2167-12-26**], f/u
   sensitivities
   - Trend temp and WBC
   - Follow up blood, sputum, and urine cultures
   #Acute Respiratory failure: The patient was started on a trial of
   Pressure Support Ventilation with pressures of 15/13, but failed this
   trial and was converted back to A/C. Current tidal volumes 500 with RR
   20, PEEP of 13, and FiO2 of 50%. Over the week an attempt was made to
   come down on her PEEP to 10cmH20, unfortunately she became hypertensive
   and dropped her Pa02 on ABG. Her chest x-ray is still suggestive of
   some pulmonary edema even after goal diuresis was met. Will continue an
   aggressive Lasix gtt regimen as BP tolerates and plan to wean in the
   PM. Increased PEEP need may be [**1-4**] the need to increase alveolar
   pressures given the pulmonary edema. If pt is not able to tolerate PEEP
   following diurese will consider other factors for increased PEEP
   requirements.
   - CXR appears wet
 continue lasix drip aggressively to diurese per BP
   toleration. Goal = even for day.
   - after aggressive diuresis will attempt wean of PEEP
   - will discuss trach with family on today
   # Neck Hematoma:  Developed in setting of RIJ placement.  No bruits
   - follow
   # LUE Swelling:  L >R, has anasraca so difficult to assess. Has been
   off heparin gtt in setting of neck hematoma
   - U/S showed no DVT
   #Protein C/S deficiency: Patient on coumadin as an outpatient, now on a
   heprin gtt due to recent procedures.
   - Continue to hold coumadin pending discussion of trach given
   aspiration risk; continue heparin gtt.
   #ARF: Improving with Cr of 1.8 close to reported baseline of 2.0.
   Likely ATN secondary to septic shock. Baseline of ~2 per records.
   -Continue trending creatinine
   #Parkinson
s Disease: Stable. Continue carbidopa/levodopa and Requip
   #HTN: Stable at 120/50s this morning s/p Lasix.
   -Continue monitoring.
   -Lasix PRN
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2168-1-1**] 04:41 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2167-12-28**] 06:53 PM
   Arterial Line - [**2167-12-29**] 01:45 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2168-01-01 10:50:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   Sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Family meeting held--very extensive discussion of what is medically
   possible and what patient would view as minimum acceptable end point
   for this hospitalization.  Her family expressed that living in a
   supported setting but independent to perform her "crafts" and
   activities would be her goal.  They were not able to define an
   unacceptable outcome.  We described an expected course of requirement
   for mechanical ventilation chronically and institutionalizaion within
   acute care setting with intermittent tranfers to Rehab being a likely
   outcome at this time.  We agreed to continue with full patient
   treatment at this time and continue to discuss in light of clinical
   progress or worsening over next days.
   Patient with worsening hypoxemia with PEEP return to 15 and FIO2=0.6
   now
   Patient with decreasing HCT and increasing hemoptysis
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Morphine
   Unknown;
   Aspirin
   Unknown;
   Cephalosporins
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2167-12-30**] 12:00 PM
   Caspofungin - [**2167-12-31**] 06:01 PM
   Linezolid - [**2168-1-1**] 01:47 AM
   Meropenem - [**2168-1-1**] 08:00 AM
   Infusions:
   Furosemide (Lasix) - 5 mg/hour
   Midazolam (Versed) - 10 mg/hour
   Fentanyl (Concentrate) - 100 mcg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Flowsheet Data as of  [**2168-1-1**] 10:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.1
C (98.8
   HR: 78 (70 - 88) bpm
   BP: 100/41(59) {91/34(52) - 141/54(82)} mmHg
   RR: 22 (20 - 36) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 90.4 kg (admission): 95.8 kg
   Height: 59 Inch
   CVP: 4 (-4 - 158)mmHg
   Total In:
                                                                  3,900 mL
                                                                  1,475 mL
   PO:
   TF:
                                                                    724 mL
                                                                    315 mL
   IVF:
                                                                  2,426 mL
                                                                    960 mL
   Blood products:
   Total out:
                                                                  2,755 mL
                                                                  1,400 mL
   Urine:
                                                                  1,960 mL
                                                                    900 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,145 mL
                                                                     75 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 44 cmH2O
   Plateau: 35 cmH2O
   Compliance: 25 cmH2O/mL
   SpO2: 99%
   ABG: 7.39/32/71/18/-4
   Ve: 13.6 L/min
   PaO2 / FiO2: 118
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.6 g/dL
   235 K/uL
   135 mg/dL
   1.7 mg/dL
   18 mEq/L
   3.4 mEq/L
   39 mg/dL
   107 mEq/L
   136 mEq/L
   22.4 %
   11.0 K/uL
        [image002.jpg]
                             [**2167-12-30**]  05:26 AM
                             [**2167-12-30**]  05:49 AM
                             [**2167-12-30**]  07:12 AM
                             [**2167-12-30**]  04:04 PM
                             [**2167-12-30**]  04:30 PM
                             [**2167-12-30**]  07:47 PM
                             [**2167-12-31**]  04:00 AM
                             [**2167-12-31**]  04:05 AM
                             [**2168-1-1**]  03:31 AM
                             [**2168-1-1**]  04:00 AM
   WBC
   13.1
   12.6
   11.0
   Hct
   25.3
   23.4
   22.4
   Plt
   227
   246
   235
   Cr
   2.1
   1.9
   1.8
   1.7
   TCO2
   20
   21
   20
   20
   20
   Glucose
   94
   101
   121
   142
   135
   Other labs: PT / PTT / INR:13.9/68.7/1.2, ALT / AST:[**2-12**], Alk Phos / T
   Bili:79/0.2, Differential-Neuts:89.4 %, Band:2.0 %, Lymph:4.6 %,
   Mono:3.8 %, Eos:1.4 %, Lactic Acid:0.8 mmol/L, Albumin:3.2 g/dL,
   Ca++:7.8 mg/dL, Mg++:1.9 mg/dL, PO4:4.5 mg/dL
   Imaging: CXR--New LLL collapse
   Assessment and Plan
   73 yo female with history of parkinson's disease now with admission
   with sepsis and respiratory failure now with persistent respiratory
   failure and hypoxemia with drug resistant bacteria and fungemia.  She
   now has worsening hypoxemia which is related to the left lower lobe
   collapse and ongoing hemoptysis and bleeding in the setting of required
   anticoagulation for protein C+S deficeincy.
   1)Respiratory Failure-New issues of significant hemoptysis and left
   lower lobe collapse.  She has persistent hypoxemia in the setting of
   attempt at diuresis-We are left with pneumonia, Collapse, Hemoptysis
   and obesity and chest wall restriction resulting in persistent failure.
   -Bronchoscopy today
   -PIP remain at 31
   -Will have to consider heparin hold if hemoptysis increases and limits
   oxygen as well
   -Will maintain A/C support for now
   -I/O to be even or negative if possible
but CVP is low, blood pressure
   is maginal
   2)Hemoptysis-Likley tracheal trauma in the setting of anticoagulation
   -Will have to define source with bronchoscopy
   -Will hold heparin for now
   -Follow up HCT
   3)Pneumonia-
   -Continue with Linezolid and Meropenem
   -Follow up bronchoscopy samples and will attempt to send protected
   specimen.
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   -Linezolid and Meropenem
   -Casopfungin
   -
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2168-1-1**] 04:41 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2167-12-28**] 06:53 PM
   Arterial Line - [**2167-12-29**] 01:45 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt
move to boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:  Extensive family discussion with all
   offspring in attendance and all questions answered.  The express hope
   for the best outcome
we agreed to continue with full treatment over
   time but did describe a clinical course of absence of improvement and
   concern for worsening over time.
   Code status: Full code
   Disposition :ICU
   Total time spent: 75 minutes
   Patient is critically ill

2168-01-02 06:42:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BRONCHOSCOPY - At [**2168-1-1**] 12:09 PM
 SPUTUM CULTURE - At [**2168-1-1**] 01:41 PM
   - bronch done showing thick mucous plug/pus in L bronchous with
   bleeding oozing in trachea likely [**1-4**] to suctioning
   - heparin gtt stopped given bloody suctioning
   - I/O goal: even
   - guaiac negative
   - PEEP decreased to 13 p bronch - ABG: 7.35/36/115
   - PEEP decreased again to 10 - ABG: 7.37/37/99
   - PEEP decreased again to 8 - ABG: 7.39/36/115
   - started desating early this morning to 88% - did recruitment (PEEP to
   35) with good response
   Allergies:
   Morphine
   Unknown;
   Aspirin
   Unknown;
   Cephalosporins
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2167-12-30**] 12:00 PM
   Caspofungin - [**2168-1-1**] 06:00 PM
   Meropenem - [**2168-1-1**] 09:34 PM
   Linezolid - [**2168-1-2**] 02:20 AM
   Infusions:
   Fentanyl (Concentrate) - 100 mcg/hour
   Midazolam (Versed) - 8 mg/hour
   Furosemide (Lasix) - 5 mg/hour
   Other ICU medications:
   Fentanyl - [**2168-1-2**] 06:17 AM
   Midazolam (Versed) - [**2168-1-2**] 06:18 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-1-2**] 06:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.7
C (99.9
   HR: 83 (69 - 88) bpm
   BP: 123/50(73) {89/34(52) - 148/63(84)} mmHg
   RR: 18 (12 - 32) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 90.4 kg (admission): 95.8 kg
   Height: 59 Inch
    CVP: 16 (5 - 17)mmHg
   Total In:
                                                                  3,645 mL
                                                                    867 mL
   PO:
   TF:
                                                                    720 mL
                                                                    200 mL
   IVF:
                                                                  1,955 mL
                                                                    467 mL
   Blood products:
   Total out:
                                                                  3,200 mL
                                                                  1,150 mL
   Urine:
                                                                  2,300 mL
                                                                    850 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    445 mL
                                                                   -283 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 20
   RR (Spontaneous): 3
   PEEP: 8 cmH2O
   FiO2: 60%
   RSBI Deferred: FiO2 > 60%
   PIP: 28 cmH2O
   Plateau: 22 cmH2O
   Compliance: 71.4 cmH2O/mL
   SpO2: 94%
   ABG: 7.43/32/77.[**Numeric Identifier 96**]/20/-1
   Ve: 13.6 L/min
   PaO2 / FiO2: 130
   Physical Examination
   Gen: Elderly female, intubated, lying in bed in NAD
   HEENT: PEERL
   Lungs: a few coarse breath sounds anteriorly
   CV: RRR, no MRG
   Abdomen: + BS, soft, NTND, ostomy in place draining brown stool
   Extremities: warm, anasarcic, LUE 3+ edema, RUE 2+ edema
   Peripheral Vascular: 2+ distal pulses bilaterally
   Skin:  Multiple ecchymoses.
   Neurologic: Alert, eyes open spontaneously, nods to questions, and
   follows some commands.
   Labs / Radiology
   221 K/uL
   7.4 g/dL
   123 mg/dL
   1.6 mg/dL
   20 mEq/L
   3.4 mEq/L
   35 mg/dL
   106 mEq/L
   138 mEq/L
   22.6 %
   9.6 K/uL
        [image002.jpg]
                             [**2167-12-31**]  04:00 AM
                             [**2167-12-31**]  04:05 AM
                             [**2168-1-1**]  03:31 AM
                             [**2168-1-1**]  04:00 AM
                             [**2168-1-1**]  03:06 PM
                             [**2168-1-1**]  03:40 PM
                             [**2168-1-1**]  05:03 PM
                             [**2168-1-1**]  08:27 PM
                             [**2168-1-2**]  04:11 AM
                             [**2168-1-2**]  04:23 AM
   WBC
   12.6
   11.0
   10.3
   9.6
   Hct
   23.4
   22.4
   22.5
   22.6
   Plt
   [**Telephone/Fax (3) 7729**]21
   Cr
   1.8
   1.7
   1.6
   TCO2
   20
   20
   21
   22
   23
   22
   Glucose
   142
   135
   123
   Other labs: PT / PTT / INR:13.6/28.9/1.2, ALT / AST:[**2-12**], Alk Phos / T
   Bili:79/0.2, Differential-Neuts:89.4 %, Band:2.0 %, Lymph:4.6 %,
   Mono:3.8 %, Eos:1.4 %, Lactic Acid:0.8 mmol/L, Albumin:3.2 g/dL,
   Ca++:8.1 mg/dL, Mg++:1.7 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
 .H/O HYPERNATREMIA (HIGH SODIUM)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   73 y/o Female with PMH of Parkinson
s dz, Protein C/S deficiency,
   Multiple VTE off anticoag [**1-4**] RP hematoma wit IVC filter, CKD, s/p
   partieal colectomy with ostomy transferred to [**Hospital Unit Name 44**] for further
   management of septic shock and respiratory failure
   # Sepsis: Leukocytosis trending downwards at 11 today. Sources
   previously found to be Gram negative rods in urine and sputum, but She
   did have 1+ GPC in her sputum. Sputum culture sensitivity shows
   sensitivity to meropenem, zosyn, and cephalosporins. Pt unfortunately
   has an allergy to beta lactams.  MRSA screen and sputum cultures now
   show MRSA +.  Pt also noted to have a positive fungal culture from
   [**12-23**], her subsequent bld cultures have not been positive however even
   with one positive result fungemia is a concern. Pt was started on
   Caspofungin over the weekend, ID was consulted and is and signed off
   yesterday. Sensitivities fort Voriconazole and Fluconazole have been
   ordered will f/u.
   - Appreciate ID recs, recommended switching to Linezolid for MRSA PNA
   coverage rather than Vancomycin given it
s increased efficacy.
   Continue linezolid for 14 days for MRSA PNA
 day 1- [**2167-12-30**].
   - continue meropenem for 14 days
 day 1 [**2167-12-28**]
   - continue caspofungin for [**Female First Name (un) 188**] in blood
 day 1 [**2167-12-26**], f/u
   sensitivities
   - Trend temp and WBC
   - Sputum from bronchoscopy sent today
   - Follow up blood, sputum, and urine cultures
   #Acute Respiratory failure: The patient was started on a trial of
   Pressure Support Ventilation yesterday, with pressures of 15/13, but
   failed this trial and was converted back to A/C. Current tidal volumes
   500 with RR 20, PEEP of 15, and FiO2 of 60%. Over the week an attempt
   was made to come down on her PEEP to 10cmH20, unfortunately she became
   hypertensive and dropped her Pa02 on ABG. Her chest x-ray is still
   suggestive of  some pulmonary edema even after goal diuresis was met..
   Increased PEEP need may be [**1-4**] the need to increase alveolar pressures
   given the pulmonary edema. If pt is not able to tolerate PEEP following
   diurese will consider other factors for increased PEEP requirements.
   Bronchoscopy today revealed copious secretions in the left lung, trauma
   to the upper airways, but no evidence of active bleeding in the lower
   airways. Trauma likely due to repeated suctioning.
   - Will decrease suction pressures and limit the amount of suctioning
   performed.
   - CXR appears wet
 continue lasix as necessary. Goal = even for day.
   - Holding heparin gtt to reduce risk of bleeding s/p repeated traumas
   - after aggressive diuresis will attempt wean of PEEP
   # Anemia: Hct drop from 25.3 to 22.4 over 24 hours. Concerning for
   hemorrhage (not likely to be dilutional) because volume load is being
   decreased with Lasix drip. Hemorrhagic fluid in the endotracheal tube
   reservior. Bronchoscopy revealed likely trauma to upper airways but no
   evidence of bleeding in the lower airways.
   - Type and screen pRBC and transfuse as necessary. Goal Hct > 21.
   - Holding heparin gtt for now.
   - Stool guaiac
   - Reduce pressure/ frequency of suctioning.
   # LUE Swelling:  L >R, has anasraca so difficult to assess. Has been
   off heparin gtt in setting of neck hematoma
   - U/S showed no DVT
   #Protein C/S deficiency: Patient on coumadin as an outpatient, was on a
   heprin gtt due to recent procedures. Due to 3 point drop in hematocrit,
   heparin drip being held.
    - Continue to hold coumadin pending discussion of trach given
   aspiration risk
   -  Holding heparin as above
   -  Will monitor PT, PTT, and INR q day
   #ARF: Improving with Cr of 1.7 close to reported baseline of 2.0.
   Likely ATN secondary to septic shock. Baseline of ~2 per records.
   -Continue trending creatinine
   #Parkinson
s Disease: Stable. Continue carbidopa/levodopa and Requip
   # Neck Hematoma:  Developed in setting of RIJ placement.  No bruits
   - follow
   #HTN: Stable at 90-140/49-50 this morning s/p Lasix.
   -Continue monitoring. Goal fluid balance for day = even
   -Lasix PRN
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2168-1-1**] 07:01 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2167-12-28**] 06:53 PM
   Arterial Line - [**2167-12-29**] 01:45 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2168-01-02 10:15:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   73 yo f with PD, Prot C/S, IVC filter admitted with PNA/sepsis (ESBL,
   MRSA, glabatra)
   24 Hour Events:
 BRONCHOSCOPY - At [**2168-1-1**] 12:09 PM: thick mucous plugs LLL,
   bleeding due to suction trauma
   *Heparin stopped
   *Tolerated PEEP decrease to 8 after bronch
   *Family mtg with change to full code
 SPUTUM CULTURE - At [**2168-1-1**] 01:41 PM
   History obtained from Medical records, ICU team
   Patient unable to provide history: sedated/intubated
   Allergies:
   Morphine
   Unknown;
   Aspirin
   Unknown;
   Cephalosporins
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2167-12-30**] 12:00 PM
   Caspofungin - [**2168-1-1**] 06:00 PM
   Linezolid - [**2168-1-2**] 02:20 AM
   Meropenem - [**2168-1-2**] 08:00 AM
   Infusions:
   Midazolam (Versed) - 8 mg/hour
   Furosemide (Lasix) - 5 mg/hour
   Other ICU medications:
   Fentanyl - [**2168-1-2**] 06:17 AM
   Midazolam (Versed) - [**2168-1-2**] 06:18 AM
   Other medications:
   chlorhex, SSI, lansoprazole, requip, carbidopa/levodopa, zoloft,
   colace, free water
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-1-2**] 10:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.9
C (98.5
   HR: 79 (69 - 85) bpm
   BP: 123/47(71) {89/34(52) - 148/63(84)} mmHg
   RR: 25 (12 - 32) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 90.4 kg (admission): 95.8 kg
   Height: 59 Inch
   CVP: 14 (7 - 17)mmHg
   Total In:
                                                                  3,645 mL
                                                                  1,244 mL
   PO:
   TF:
                                                                    720 mL
                                                                    299 mL
   IVF:
                                                                  1,955 mL
                                                                    745 mL
   Blood products:
   Total out:
                                                                  3,200 mL
                                                                  1,350 mL
   Urine:
                                                                  2,300 mL
                                                                  1,050 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    445 mL
                                                                   -106 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: FiO2 > 60%
   PIP: 32 cmH2O
   Plateau: 21 cmH2O
   Compliance: 83.3 cmH2O/mL
   SpO2: 95%
   ABG: 7.43/32/77.[**Numeric Identifier 96**]/20/-1
   Ve: 12.4 L/min
   PaO2 / FiO2: 130
   Physical Examination
   General Appearance: Obese , chronically ill, NAD
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic)
   Respiratory / Chest: coarse BS
   Abdominal: Soft, Non-tender
   Extremities: Anasarca with left arm edema
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, No(t) Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   7.4 g/dL
   221 K/uL
   123 mg/dL
   1.6 mg/dL
   20 mEq/L
   3.4 mEq/L
   35 mg/dL
   106 mEq/L
   138 mEq/L
   22.6 %
   9.6 K/uL
        [image002.jpg]
                             [**2167-12-31**]  04:00 AM
                             [**2167-12-31**]  04:05 AM
                             [**2168-1-1**]  03:31 AM
                             [**2168-1-1**]  04:00 AM
                             [**2168-1-1**]  03:06 PM
                             [**2168-1-1**]  03:40 PM
                             [**2168-1-1**]  05:03 PM
                             [**2168-1-1**]  08:27 PM
                             [**2168-1-2**]  04:11 AM
                             [**2168-1-2**]  04:23 AM
   WBC
   12.6
   11.0
   10.3
   9.6
   Hct
   23.4
   22.4
   22.5
   22.6
   Plt
   [**Telephone/Fax (3) 7729**]21
   Cr
   1.8
   1.7
   1.6
   TCO2
   20
   20
   21
   22
   23
   22
   Glucose
   142
   135
   123
   Other labs: PT / PTT / INR:13.6/28.9/1.2, ALT / AST:[**2-12**], Alk Phos / T
   Bili:79/0.2, Differential-Neuts:89.4 %, Band:2.0 %, Lymph:4.6 %,
   Mono:3.8 %, Eos:1.4 %, Lactic Acid:0.8 mmol/L, Albumin:3.2 g/dL,
   Ca++:8.1 mg/dL, Mg++:1.7 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
   Sepsis with ESBL UTI, MRSA pna, and [**Female First Name (un) 188**] fungemia
   Resp failure
   Anemia
   Resp failure: remains vent dependent with high PEEP, high FiO2
   requirement
     On lasix infusion, making slight headway with PEEP
     Continue to try to remove fluid as BP/BUN tolerates
      Bronch as needed for mucous plugging, though no immediate need today
   Sepsis: continue merepenem, linezolid and caspofungin
   Left arm swelling: will check US and elevate left arm
   Prot C and S deficiency; off heparin for the time being. Will consider
   once bloody secretions decreasing
   Anemia: unchanged from yesterday.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2168-1-1**] 07:01 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2167-12-28**] 06:53 PM
   Arterial Line - [**2167-12-29**] 01:45 PM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2168-01-03 04:37:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Healthcare Proxy confirmed pt is DNR, ok to use pressors at the
   moment until family meeting on [**1-4**]
   - Pt experienced several episodes of desaturation to the mid-80s,
   improves with mobilization of secretions. Unable to secretion after the
   findings from Bronch, could only instill saline and wait for pt to
   cough up secretions
   - PEEP increased eventually from 8 to 10 early yesterday AM during
   rounds
   - A line d/c'd [**1-4**] poor wave form
   - Concern for increased swelling in her LUE, US ordered.
   Allergies:
   Morphine
   Unknown;
   Aspirin
   Unknown;
   Cephalosporins
   Unknown;
   Last dose of Antibiotics:
   Caspofungin - [**2168-1-2**] 06:05 PM
   Meropenem - [**2168-1-2**] 07:43 PM
   Linezolid - [**2168-1-3**] 02:09 AM
   Infusions:
   Fentanyl (Concentrate) - 100 mcg/hour
   Midazolam (Versed) - 8 mg/hour
   Furosemide (Lasix) - 5 mg/hour
   Other ICU medications:
   Fentanyl - [**2168-1-2**] 06:17 AM
   Midazolam (Versed) - [**2168-1-2**] 06:18 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-1-3**] 04:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.1
C (98.8
   HR: 77 (75 - 89) bpm
   BP: 119/47(65) {111/41(58) - 154/63(84)} mmHg
   RR: 21 (18 - 32) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 90.4 kg (admission): 95.8 kg
   Height: 59 Inch
    CVP: 15 (5 - 17)mmHg
   Total In:
                                                                  3,322 mL
                                                                    546 mL
   PO:
   TF:
                                                                    720 mL
                                                                    131 mL
   IVF:
                                                                  1,802 mL
                                                                    415 mL
   Blood products:
   Total out:
                                                                  5,360 mL
                                                                    960 mL
   Urine:
                                                                  4,310 mL
                                                                    660 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,038 mL
                                                                   -414 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: FiO2 > 60%
   PIP: 26 cmH2O
   Plateau: 22 cmH2O
   SpO2: 95%
   ABG: ///21/
   Ve: 11.6 L/min
   Physical Examination
   Gen: Elderly female, intubated, lying in bed in NAD
   HEENT: PEERL
   Lungs: a few coarse breath sounds anteriorly
   CV: RRR, no MRG
   Abdomen: + BS, soft, NTND, ostomy in place draining brown stool
   Extremities: warm, anasarcic, LUE 3+ edema, RUE 2+ edema
   Peripheral Vascular: 2+ distal pulses bilaterally
   Skin:  Multiple ecchymoses.
   Neurologic: Alert, eyes open spontaneously, nods to questions, and
   follows some commands.
   Labs / Radiology
   221 K/uL
   7.0 g/dL
   140 mg/dL
   1.6 mg/dL
   21 mEq/L
   3.3 mEq/L
   30 mg/dL
   104 mEq/L
   137 mEq/L
   21.1 %
   9.6 K/uL
        [image002.jpg]
                             [**2168-1-1**]  03:31 AM
                             [**2168-1-1**]  04:00 AM
                             [**2168-1-1**]  03:06 PM
                             [**2168-1-1**]  03:40 PM
                             [**2168-1-1**]  05:03 PM
                             [**2168-1-1**]  08:27 PM
                             [**2168-1-2**]  04:11 AM
                             [**2168-1-2**]  04:23 AM
                             [**2168-1-2**]  04:35 PM
                             [**2168-1-3**]  03:28 AM
   WBC
   11.0
   10.3
   9.6
   10.7
   9.6
   Hct
   22.4
   22.5
   22.6
   23.3
   21.1
   Plt
   235
   235
   221
   244
   221
   Cr
   1.7
   1.6
   1.6
   TCO2
   20
   21
   22
   23
   22
   Glucose
   135
   123
   140
   Other labs: PT / PTT / INR:14.4/28.9/1.3, ALT / AST:[**2-12**], Alk Phos / T
   Bili:79/0.2, Differential-Neuts:89.4 %, Band:2.0 %, Lymph:4.6 %,
   Mono:3.8 %, Eos:1.4 %, Lactic Acid:0.8 mmol/L, Albumin:3.2 g/dL,
   Ca++:8.0 mg/dL, Mg++:2.0 mg/dL, PO4:4.0 mg/dL
   [1][**2168-1-1**]
   SPUTUM
   GRAM STAIN-FINAL; RESPIRATORY CULTURE-PRELIMINARY
   INPATIENT
   [2][**2167-12-30**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   INPATIENT
   [3][**2167-12-28**]
   CATHETER TIP-IV
   WOUND CULTURE-FINAL
   INPATIENT
   [4][**2167-12-28**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   INPATIENT
   [5][**2167-12-27**]
   BLOOD CULTURE
   Blood Culture, Routine-FINAL
   INPATIENT
   [6][**2167-12-26**]
   BLOOD CULTURE
   Blood Culture, Routine-FINAL
   INPATIENT
   [7][**2167-12-26**]
   BLOOD CULTURE ( MYCO/F LYTIC BOTTLE)
   BLOOD/FUNGAL CULTURE-PRELIMINARY; BLOOD/AFB CULTURE-PRELIMINARY
   INPATIENT
   [8][**2167-12-26**]
   BLOOD CULTURE
   Blood Culture, Routine-FINAL
   INPATIENT
   [9][**2167-12-26**]
   URINE
   URINE CULTURE-FINAL
   INPATIENT
   [10][**2167-12-26**]
   SPUTUM
   GRAM STAIN-FINAL; RESPIRATORY CULTURE-FINAL {STAPH AUREUS COAG +, GRAM
   NEGATIVE ROD(S), YEAST}
   INPATIENT
   [11][**2167-12-26**]
   BLOOD CULTURE
   Blood Culture, Routine-FINAL
   INPATIENT
   [12][**2167-12-25**]
   CATHETER TIP-IV
   WOUND CULTURE-FINAL
   INPATIENT
   [13][**2167-12-25**]
   BLOOD CULTURE
   Blood Culture, Routine-FINAL
   INPATIENT
   [14][**2167-12-25**]
   BLOOD CULTURE
   Blood Culture, Routine-FINAL
   INPATIENT
   Assessment and Plan
   73 y/o Female with PMH of Parkinson
s dz, Protein C/S deficiency,
   Multiple VTE off anticoag [**1-4**] RP hematoma wit IVC filter, CKD, s/p
   partieal colectomy with ostomy transferred to [**Hospital Unit Name 44**] for further
   management of septic shock and respiratory failure unable to be weaned
   off the vent.
   # Sepsis: Leukocytosis trending downwards at 9.6 today. Sources
   previously found to be Gram negative rods in urine and sputum, and MRSA
   in her sputum. Sputum culture sensitivity shows sensitivity to
   meropenem, zosyn, and cephalosporins. Pt unfortunately has an allergy
   to beta lactams.  Pt also noted to have a positive fungal culture from
   [**12-23**], her subsequent bld cultures have not been positive however even
   with one positive result fungemia is a concern. Pt was started on
   Caspofungin over the weekend, ID was consulted and is and signed off.
   Sensitivities fort Voriconazole and Fluconazole have been ordered will
   f/u.  Recent sputum cx with no growth.  Bronch two days ago showed
   mucous plugging.
   - Appreciate ID recs, recommended switching to Linezolid for MRSA PNA
   coverage rather than Vancomycin given it
s increased efficacy.
   Continue linezolid for 14 days for MRSA PNA
 day 1- [**2167-12-30**], now day
   [**4-14**].
   - continue meropenem for 14 days
 day 1 [**2167-12-28**], now day [**6-14**].
   - continue caspofungin for [**Female First Name (un) 188**] in blood
 day 1 [**2167-12-26**], f/u
   sensitivities, now day [**8-15**].
   - Trend temp and WBC
   - Follow up blood cultures
   #Acute Respiratory failure: The patient was able to be weaned down to a
   PEEP of 8 following the bronchoscopy. Given the amount of secretions
   and blood suctioned from the bronchoscopy pt
s PEEP dependance may be
   due to the amount of secretions she has in her lungs. Unfortunately
   even though suctioning would aid with secretion removal it would likely
   worsen the blding providing more trauma. Will continue instilling
   normal saline and suctioning from within the ventilator tube system if
   she appears to have mucous plugging.
   - Will continue current ventilatory support for today and hold off
   weaning attempts.
   - Instill NS into tube to induce cough, suction only winthin the
   confines of the ventilator tubing
   - Continue diuresis with Lasix gtt. Goal = even to -500cc
   - Holding heparin gtt to reduce risk of bleeding s/p repeated traumas
   - Treatment of infection as above.
   # Anemia: Hct decreased today to 21.1.  Patient was seen to have
   bleeding in her trachea on the bronch two days ago
   - Type and screen pRBC and transfuse as necessary.
   - Will transfuse 1 unit PRBC this am and check a post transfusion Hct.
   - Holding heparin gtt for now.
   - Guaiac stool.
   # LUE Swelling:  L >R, has anasraca so difficult to assess. Has been
   off heparin gtt in setting of neck hematoma. U/S several days agi was
   noted to be negative, however given the worsening of edema one the left
   side as well as the erythema and tenderness this morning will re-order
   an U/S for DVT.
   - U/S to check for  DVT
   #Protein C/S deficiency: Patient on coumadin as an outpatient, was on a
   heprin gtt due to recent procedures. Due to 3 point drop in hematocrit,
   heparin drip being held.
    - Continue to hold coumadin pending discussion of trach given
   aspiration risk
   -  Holding heparin given current tracheal bld
   -  Will monitor PT, PTT, and INR q day
   #Chronic renal insufficiency: Patient had ARF initially, now improved
   with Cr of 1.6 lower than her reported baseline of 2.0. Pt likely had
   ATN secondary to septic shock. Baseline of ~2 per records.
   -Continue trending creatinine
   #Parkinson
s Disease: Stable. Continue carbidopa/levodopa and Requip
   #HTN: Stable this morning will continue Lasix gtt
   -Continue monitoring. Goal fluid balance for day = even or -500cc
   -Lasix PRN
   ICU Care
   Nutrition: tube feeds
   Glycemic Control:  SSI
   Lines:
   Multi Lumen - [**2167-12-28**] 06:53 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: PPI
   VAP:  HOB > 30, mouth care
   Comments:
   Communication:  Comments:
   Code status: DNR
   Disposition: ICU
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_1%22,640,400,50,50,1);
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_2%22,640,400,50,50,1);
   3. JavaScript:parent.POPUP(self,%22_WEBTAG=_3%22,640,400,50,50,1);
   4. JavaScript:parent.POPUP(self,%22_WEBTAG=_4%22,640,400,50,50,1);
   5. JavaScript:parent.POPUP(self,%22_WEBTAG=_5%22,640,400,50,50,1);
   6. JavaScript:parent.POPUP(self,%22_WEBTAG=_6%22,640,400,50,50,1);
   7. JavaScript:parent.POPUP(self,%22_WEBTAG=_7%22,640,400,50,50,1);
   8. JavaScript:parent.POPUP(self,%22_WEBTAG=_8%22,640,400,50,50,1);
   9. JavaScript:parent.POPUP(self,%22_WEBTAG=_9%22,640,400,50,50,1);
  10. JavaScript:parent.POPUP(self,%22_WEBTAG=_10%22,640,400,50,50,1);
  11. JavaScript:parent.POPUP(self,%22_WEBTAG=_11%22,640,400,50,50,1);
  12. JavaScript:parent.POPUP(self,%22_WEBTAG=_12%22,640,400,50,50,1);
  13. JavaScript:parent.POPUP(self,%22_WEBTAG=_13%22,640,400,50,50,1);
  14. JavaScript:parent.POPUP(self,%22_WEBTAG=_14%22,640,400,50,50,1);

2168-01-04 08:08:00 Physician Resident Progress Note
Chief Complaint: sepsis
   24 Hour Events:
   [**2168-1-3**]:
   - The patient's Hct drifted down to 21.1 in the am and she was
   transfused 1 unit of PRBC.  Post transfusion Hct was 25.1.
   Allergies:
   Morphine
   Unknown;
   Aspirin
   Unknown;
   Cephalosporins
   Unknown;
   Last dose of Antibiotics:
   Caspofungin - [**2168-1-2**] 06:05 PM
   Linezolid - [**2168-1-4**] 02:00 AM
   Meropenem - [**2168-1-4**] 07:56 AM
   Infusions:
   Fentanyl (Concentrate) - 100 mcg/hour
   Furosemide (Lasix) - 1 mg/hour
   Midazolam (Versed) - 8 mg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2168-1-4**] 07:57 AM
   Heparin Sodium (Prophylaxis) - [**2168-1-4**] 07:57 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-1-4**] 08:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37.6
C (99.7
   HR: 76 (73 - 87) bpm
   BP: 103/50(63) {99/40(54) - 149/104(113)} mmHg
   RR: 17 (17 - 30) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 85.5 kg (admission): 95.8 kg
   Height: 59 Inch
    CVP: 11 (1 - 13)mmHg
   Total In:
                                                                  3,215 mL
                                                                  1,076 mL
   PO:
   TF:
                                                                    721 mL
                                                                    243 mL
   IVF:
                                                                  1,499 mL
                                                                    574 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  5,960 mL
                                                                    900 mL
   Urine:
                                                                  4,860 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,745 mL
                                                                    176 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 513 (513 - 513) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 27 cmH2O
   Plateau: 23 cmH2O
   Compliance: 38.5 cmH2O/mL
   SpO2: 95%
   ABG: ///25/
   Ve: 10.4 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   228 K/uL
   7.9 g/dL
   131 mg/dL
   1.5 mg/dL
   25 mEq/L
   3.6 mEq/L
   28 mg/dL
   101 mEq/L
   139 mEq/L
   23.6 %
   8.8 K/uL
        [image002.jpg]
                             [**2168-1-1**]  03:06 PM
                             [**2168-1-1**]  03:40 PM
                             [**2168-1-1**]  05:03 PM
                             [**2168-1-1**]  08:27 PM
                             [**2168-1-2**]  04:11 AM
                             [**2168-1-2**]  04:23 AM
                             [**2168-1-2**]  04:35 PM
                             [**2168-1-3**]  03:28 AM
                             [**2168-1-3**]  04:39 PM
                             [**2168-1-4**]  04:08 AM
   WBC
   10.3
   9.6
   10.7
   9.6
   8.8
   Hct
   22.5
   22.6
   23.3
   21.1
   25.1
   23.6
   Plt
   235
   221
   244
   221
   228
   Cr
   1.6
   1.6
   1.5
   TCO2
   21
   22
   23
   22
   Glucose
   123
   140
   131
   Other labs: PT / PTT / INR:14.1/28.5/1.2, ALT / AST:[**2-12**], Alk Phos / T
   Bili:79/0.2, Differential-Neuts:89.4 %, Band:2.0 %, Lymph:4.6 %,
   Mono:3.8 %, Eos:1.4 %, Lactic Acid:0.8 mmol/L, Albumin:3.2 g/dL,
   Ca++:8.4 mg/dL, Mg++:1.8 mg/dL, PO4:4.7 mg/dL
   Assessment and Plan
   Assessment and Plan
   73 y/o Female with PMH of Parkinson
s dz, Protein C/S deficiency,
   Multiple VTE off anticoag [**1-4**] RP hematoma wit IVC filter, CKD, s/p
   partieal colectomy with ostomy transferred to [**Hospital Unit Name 44**] for further
   management of septic shock and respiratory failure unable to be weaned
   off the vent.
   # Sepsis: Leukocytosis trending downwards at 9.6 today. Sources
   previously found to be Gram negative rods in urine and sputum, and MRSA
   in her sputum. Sputum culture sensitivity shows sensitivity to
   meropenem, zosyn, and cephalosporins. Pt unfortunately has an allergy
   to beta lactams.  Pt also noted to have a positive fungal culture from
   [**12-23**], her subsequent bld cultures have not been positive however even
   with one positive result fungemia is a concern. Pt was started on
   Caspofungin over the weekend, ID was consulted and is and signed off.
   Sensitivities fort Voriconazole and Fluconazole have been ordered will
   f/u.  Recent sputum cx with no growth.  Bronch two days ago showed
   mucous plugging.
   - Appreciate ID recs, recommended switching to Linezolid for MRSA PNA
   coverage rather than Vancomycin given it
s increased efficacy.
   Continue linezolid for 14 days for MRSA PNA
 day 1- [**2167-12-30**], now day
   [**4-14**].
   - continue meropenem for 14 days
 day 1 [**2167-12-28**], now day [**6-14**].
   - continue caspofungin for [**Female First Name (un) 188**] in blood
 day 1 [**2167-12-26**], f/u
   sensitivities, now day [**8-15**].
   - Trend temp and WBC
   - Follow up blood cultures
   #Acute Respiratory failure: The patient was able to be weaned down to a
   PEEP of 8 following the bronchoscopy. Given the amount of secretions
   and blood suctioned from the bronchoscopy pt
s PEEP dependance may be
   due to the amount of secretions she has in her lungs. Unfortunately
   even though suctioning would aid with secretion removal it would likely
   worsen the blding providing more trauma. Will continue instilling
   normal saline and suctioning from within the ventilator tube system if
   she appears to have mucous plugging.
   - Will continue current ventilatory support for today and hold off
   weaning attempts.
   - Instill NS into tube to induce cough, suction only winthin the
   confines of the ventilator tubing
   - Continue diuresis with Lasix gtt. Goal = even to -500cc
   - Holding heparin gtt to reduce risk of bleeding s/p repeated traumas
   - Treatment of infection as above.
   # Anemia: Hct decreased today to 21.1.  Patient was seen to have
   bleeding in her trachea on the bronch two days ago
   - Type and screen pRBC and transfuse as necessary.
   - Will transfuse 1 unit PRBC this am and check a post transfusion Hct.
   - Holding heparin gtt for now.
   - Guaiac stool.
   # LUE Swelling:  L >R, has anasraca so difficult to assess. Has been
   off heparin gtt in setting of neck hematoma. U/S several days agi was
   noted to be negative, however given the worsening of edema one the left
   side as well as the erythema and tenderness this morning will re-order
   an U/S for DVT.
   - U/S to check for  DVT
   #Protein C/S deficiency: Patient on coumadin as an outpatient, was on a
   heprin gtt due to recent procedures. Due to 3 point drop in hematocrit,
   heparin drip being held.
    - Continue to hold coumadin pending discussion of trach given
   aspiration risk
   -  Holding heparin given current tracheal bld
   -  Will monitor PT, PTT, and INR q day
   #Chronic renal insufficiency: Patient had ARF initially, now improved
   with Cr of 1.6 lower than her reported baseline of 2.0. Pt likely had
   ATN secondary to septic shock. Baseline of ~2 per records.
   -Continue trending creatinine
   #Parkinson
s Disease: Stable. Continue carbidopa/levodopa and Requip
   #HTN: Stable this morning will continue Lasix gtt
   -Continue monitoring. Goal fluid balance for day = even or -500cc
   -Lasix PRN
   ICU Care
   Nutrition: tube feeds
   Glycemic Control:  SSI
   Lines:
   Multi Lumen - [**2167-12-28**] 06:53 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: PPI
   VAP:  HOB > 30, mouth care
   Comments:
   Communication:  Comments:
   Code status: DNR
   Disposition: ICU
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2168-1-3**] 04:09 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2167-12-28**] 06:53 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2168-01-04 12:11:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   Sepsis
   I saw and examined the patient, and was physically present with the
   for key portions of the services provided.  I agree with his / her note
   above, including assessment and plan.
   HPI:
   24 Hour Events:
   Low grade fevers
   PEEP still at 10 with FIO2 requirement continuing at 0.6
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Morphine
   Unknown;
   Aspirin
   Unknown;
   Cephalosporins
   Unknown;
   Last dose of Antibiotics:
   Caspofungin - [**2168-1-2**] 06:05 PM
   Linezolid - [**2168-1-4**] 02:00 AM
   Meropenem - [**2168-1-4**] 07:56 AM
   Infusions:
   Furosemide (Lasix) - 2 mg/hour
   Midazolam (Versed) - 8 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2168-1-4**] 07:57 AM
   Lansoprazole (Prevacid) - [**2168-1-4**] 07:57 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Flowsheet Data as of  [**2168-1-4**] 12:00 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37.7
C (99.8
   HR: 74 (69 - 87) bpm
   BP: 119/51(68) {102/40(56) - 149/104(113)} mmHg
   RR: 20 (17 - 30) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 85.5 kg (admission): 95.8 kg
   Height: 59 Inch
   CVP: 7 (1 - 13)mmHg
   Total In:
                                                                  3,207 mL
                                                                  1,531 mL
   PO:
   TF:
                                                                    721 mL
                                                                    356 mL
   IVF:
                                                                  1,491 mL
                                                                    646 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  5,960 mL
                                                                  1,305 mL
   Urine:
                                                                  4,860 mL
                                                                    780 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,753 mL
                                                                    227 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 513 (513 - 513) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 27 cmH2O
   Plateau: 23 cmH2O
   Compliance: 38.5 cmH2O/mL
   SpO2: 94%
   ABG: ///25/
   Ve: 10.4 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Not assessed), (Left DP pulse: Not
   assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.9 g/dL
   228 K/uL
   131 mg/dL
   1.5 mg/dL
   25 mEq/L
   3.6 mEq/L
   28 mg/dL
   101 mEq/L
   139 mEq/L
   23.6 %
   8.8 K/uL
        [image002.jpg]
                             [**2168-1-1**]  03:06 PM
                             [**2168-1-1**]  03:40 PM
                             [**2168-1-1**]  05:03 PM
                             [**2168-1-1**]  08:27 PM
                             [**2168-1-2**]  04:11 AM
                             [**2168-1-2**]  04:23 AM
                             [**2168-1-2**]  04:35 PM
                             [**2168-1-3**]  03:28 AM
                             [**2168-1-3**]  04:39 PM
                             [**2168-1-4**]  04:08 AM
   WBC
   10.3
   9.6
   10.7
   9.6
   8.8
   Hct
   22.5
   22.6
   23.3
   21.1
   25.1
   23.6
   Plt
   235
   221
   244
   221
   228
   Cr
   1.6
   1.6
   1.5
   TCO2
   21
   22
   23
   22
   Glucose
   123
   140
   131
   Other labs: PT / PTT / INR:14.1/28.5/1.2, ALT / AST:[**2-12**], Alk Phos / T
   Bili:79/0.2, Differential-Neuts:89.4 %, Band:2.0 %, Lymph:4.6 %,
   Mono:3.8 %, Eos:1.4 %, Lactic Acid:0.8 mmol/L, Albumin:3.2 g/dL,
   Ca++:8.4 mg/dL, Mg++:1.8 mg/dL, PO4:4.7 mg/dL
   Assessment and Plan
   73 yo female with history of PD now admitted with sepsis and
   respiratory failure with prolonged intubation with move to liberation
   from mechanical ventilation limited by secretions primarily and despite
   continued aggressive diuresis patient with persistent hypoxemic
   respiratory failure.  She did have initial insult with both likely
   pneumonia and fungemia
   1)Respiratory Failure-patient has had excellent diuresis with Lasic
   gtt, however with continued high levels of PEEP required and will have
   to move to tracheostomy with continued long term weaning.
   -The decrease in PEEP not being tolerated is likely related to
   persistent dependent atelactasis
   -There may be a lesser issue of persistent volume overload and will
   need to be continued with diuresis
   -If persistent failure seen will need to continue to provide long term
   support with tracheostomy
   -No evidence of further hemoptysis
   -ETT bleeding diminished
will return to Heparin IV when bleeding
   stabilized
   -Will move to Bronchoscopy today.
   2)Sepsis
   -Linezolid to continue with Caspofungin
   3)Parkinson's Disease-
   -Requip
   -Sinement
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2168-1-3**] 04:09 AM 30 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2167-12-28**] 06:53 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
plan for rehab
   Total time spent: 35 minutes

2168-01-05 10:54:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   Sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   patient with recurrent and intermittend desaturations
   Mild increase in pulmonary edema over past 24 hours with associated
   desaturations.
   O2 increased to 70% required
   7.42/42/70
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Morphine
   Unknown;
   Aspirin
   Unknown;
   Cephalosporins
   Unknown;
   Last dose of Antibiotics:
   Caspofungin - [**2168-1-4**] 06:10 PM
   Linezolid - [**2168-1-5**] 02:20 AM
   Meropenem - [**2168-1-5**] 08:41 AM
   Infusions:
   Furosemide (Lasix) - 4 mg/hour
   Midazolam (Versed) - 8 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2168-1-5**] 12:37 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-1-5**] 10:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.7
C (98
   HR: 66 (63 - 78) bpm
   BP: 116/55(70) {91/39(55) - 126/55(70)} mmHg
   RR: 20 (20 - 23) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 85.5 kg (admission): 95.8 kg
   Height: 59 Inch
   CVP: 11 (6 - 12)mmHg
   Total In:
                                                                  3,268 mL
                                                                  1,307 mL
   PO:
   TF:
                                                                    768 mL
                                                                    314 mL
   IVF:
                                                                  1,360 mL
                                                                    633 mL
   Blood products:
   Total out:
                                                                  2,505 mL
                                                                    648 mL
   Urine:
                                                                  1,605 mL
                                                                    528 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    763 mL
                                                                    659 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 70%
   RSBI Deferred: PEEP > 10
   PIP: 28 cmH2O
   Plateau: 25 cmH2O
   Compliance: 38.5 cmH2O/mL
   SpO2: 95%
   ABG: 7.42/42/70/24/2
   Ve: 9.4 L/min
   PaO2 / FiO2: 100
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.7 g/dL
   217 K/uL
   108 mg/dL
   1.6 mg/dL
   24 mEq/L
   3.7 mEq/L
   29 mg/dL
   100 mEq/L
   134 mEq/L
   23.3 %
   6.7 K/uL
        [image002.jpg]
                             [**2168-1-1**]  05:03 PM
                             [**2168-1-1**]  08:27 PM
                             [**2168-1-2**]  04:11 AM
                             [**2168-1-2**]  04:23 AM
                             [**2168-1-2**]  04:35 PM
                             [**2168-1-3**]  03:28 AM
                             [**2168-1-3**]  04:39 PM
                             [**2168-1-4**]  04:08 AM
                             [**2168-1-5**]  01:17 AM
                             [**2168-1-5**]  03:53 AM
   WBC
   9.6
   10.7
   9.6
   8.8
   6.7
   Hct
   22.6
   23.3
   21.1
   25.1
   23.6
   23.3
   Plt
   221
   244
   221
   228
   217
   Cr
   1.6
   1.6
   1.5
   1.6
   TCO2
   22
   23
   22
   28
   Glucose
   123
   140
   131
   108
   Other labs: PT / PTT / INR:14.0/29.2/1.2, ALT / AST:[**2-12**], Alk Phos / T
   Bili:79/0.2, Differential-Neuts:89.4 %, Band:2.0 %, Lymph:4.6 %,
   Mono:3.8 %, Eos:1.4 %, Lactic Acid:0.8 mmol/L, Albumin:3.2 g/dL,
   Ca++:8.4 mg/dL, Mg++:1.8 mg/dL, PO4:4.7 mg/dL
   Imaging: CXR--Slight increase in Right Sided effusion--no frank
   collapse
   Assessment and Plan
   73 yo female with history of PD and admit with poly-microbial resistant
   E. Coli in lung and urine now with sepsis resolving but faced with
   persistent hypoxemic respiratory failure despite continued efforts at
   diuresis and continued antibiotics.  She did have requirement for
   increase in FIO2 and PEEP with ABG showing stability of oxygenation
   only with increased support.  Renal function remains favorable.
   1)Respiratory Failure-Clearly needs continued diuresis and good
   pulmonary toilet.  Minimal evidence of any further bleeding noted on
   suctioning.
   -Lasix gtt at 4mg/hr
   -Continue with PEEP at 12-15
   -Will need to mobilize patient a possible to hope to move to extubation
   -Check NIF today to evaluate motor strenth
   -Trial PSV today with 12/15
   -Return to elevated PEEP of 15 today to work to maintain lung patency
   -Doubt extrapulmonary shunt but is possible.
   -Bronchoscopy for evaluation of persistent secretions if collapse seen
   -No evidence of persistent bleeding and will return to Heparin IV today
   -Will trial recruitment today to look to return to adequate oxygenation
   with PEEP increase to 18
 .H/O HYPERNATREMIA (HIGH SODIUM)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   -caspofungin/Linezolid/Meropenem for total course
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2168-1-4**] 07:50 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2167-12-28**] 06:53 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR
   Disposition :ICU
   Total time spent: 35 minutes

2168-01-05 11:13:00 Physician Resident Progress Note
Chief Complaint:
   73 y/o Female with PMH of Parkinson
s dz, Protein C/S deficiency,
   Multiple VTE off anticoag [**1-4**] RP hematoma wit IVC filter, CKD, s/p
   partieal colectomy with ostomy transferred to [**Hospital Unit Name 44**] for further
   management of septic shock and respiratory failure unable to be weaned
   off the vent.
   24 Hour Events:
   -Decreased furosemide drip to 1 mg/hr after SBP of 107
   -Family meeting
   -U/S of LUE showed no DVT but still red
   -Transiently hypoxic to 90%, PEEP incr 10->12 w/ no improvement. CXR
   showed increase pulm effusions so lasix gtt increased. FiO2 incr from
   60->70%.
   Allergies:
   Morphine
   Unknown;
   Aspirin
   Unknown;
   Cephalosporins
   Unknown;
   Last dose of Antibiotics:
   Caspofungin - [**2168-1-4**] 06:10 PM
   Linezolid - [**2168-1-5**] 02:20 AM
   Meropenem - [**2168-1-5**] 08:41 AM
   Infusions:
   Furosemide (Lasix) - 4 mg/hour
   Midazolam (Versed) - 8 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2168-1-5**] 12:37 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-1-5**] 11:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.7
C (98
   HR: 66 (63 - 78) bpm
   BP: 116/55(70) {91/39(55) - 126/55(70)} mmHg
   RR: 20 (20 - 23) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 85.5 kg (admission): 95.8 kg
   Height: 59 Inch
    CVP: 11 (6 - 12)mmHg
   Total In:
                                                                  3,268 mL
                                                                  1,337 mL
   PO:
   TF:
                                                                    768 mL
                                                                    332 mL
   IVF:
                                                                  1,360 mL
                                                                    645 mL
   Blood products:
   Total out:
                                                                  2,505 mL
                                                                    648 mL
   Urine:
                                                                  1,605 mL
                                                                    528 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    763 mL
                                                                    689 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 70%
   RSBI Deferred: PEEP > 10
   PIP: 28 cmH2O
   Plateau: 25 cmH2O
   Compliance: 38.5 cmH2O/mL
   SpO2: 95%
   ABG: 7.42/42/70/24/2
   Ve: 9.4 L/min
   PaO2 / FiO2: 100
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   217 K/uL
   7.7 g/dL
   108 mg/dL
   1.6 mg/dL
   24 mEq/L
   3.7 mEq/L
   29 mg/dL
   100 mEq/L
   134 mEq/L
   23.3 %
   6.7 K/uL
        [image002.jpg]
                             [**2168-1-1**]  05:03 PM
                             [**2168-1-1**]  08:27 PM
                             [**2168-1-2**]  04:11 AM
                             [**2168-1-2**]  04:23 AM
                             [**2168-1-2**]  04:35 PM
                             [**2168-1-3**]  03:28 AM
                             [**2168-1-3**]  04:39 PM
                             [**2168-1-4**]  04:08 AM
                             [**2168-1-5**]  01:17 AM
                             [**2168-1-5**]  03:53 AM
   WBC
   9.6
   10.7
   9.6
   8.8
   6.7
   Hct
   22.6
   23.3
   21.1
   25.1
   23.6
   23.3
   Plt
   221
   244
   221
   228
   217
   Cr
   1.6
   1.6
   1.5
   1.6
   TCO2
   22
   23
   22
   28
   Glucose
   123
   140
   131
   108
   Other labs: PT / PTT / INR:14.0/29.2/1.2, ALT / AST:[**2-12**], Alk Phos / T
   Bili:79/0.2, Differential-Neuts:89.4 %, Band:2.0 %, Lymph:4.6 %,
   Mono:3.8 %, Eos:1.4 %, Lactic Acid:0.8 mmol/L, Albumin:3.2 g/dL,
   Ca++:8.4 mg/dL, Mg++:1.8 mg/dL, PO4:4.7 mg/dL
   Assessment and Plan
   73 y/o Female with PMH of Parkinson
s dz, Protein C/S deficiency,
   Multiple VTE off anticoag [**1-4**] RP hematoma wit IVC filter, CKD, s/p
   partieal colectomy with ostomy transferred to [**Hospital Unit Name 44**] for further
   management of septic shock and respiratory failure unable to be weaned
   off the vent.
   #Acute Respiratory failure: The patient was initially able to be weaned
   down to a PEEP of 8 following the bronchoscopy. Given the amount of
   secretions and blood suctioned from the bronchoscopy pt
s PEEP
   dependance may be due to the amount of secretions she has in her lungs.
   On [**2168-1-5**] overnight, patient desatted to 90% on vent and required
   increase of PEEP from 10 to 12 and FiO2 increase to 70% from 60%.
   Recruitment maneuvers and repositioning unsuccessful.  Possible
   etiologies for worsening hypoxia include atelectasis, CHF, and PE.
   - empiric anticoagulation with heparin gtt for possible PE
   - Will attempt recruitment maneuvers today with goal of decreasing FiO2
   - CVP and renal function normal so will continue with gentle diuresis
   with lasix gtt with goal of even to -500cc
   - suctioning as needed for mucous plugging
   - Treatment of infection as below
   # Sepsis: Leukocytosis and now trending downwards today. Sources
   previously found to be Gram negative rods in urine and sputum, and MRSA
   in her sputum. Sputum culture sensitivity shows sensitivity to
   meropenem, zosyn, and cephalosporins. Pt unfortunately has an allergy
   to beta lactams.  Pt also noted to have a positive fungal culture from
   [**12-23**], her subsequent bld cultures have not been positive however even
   with one positive result fungemia is a concern. Pt was started on
   Caspofungin over the weekend, ID was consulted and is and signed off.
   Sensitivities for Voriconazole and Fluconazole have been ordered will
   f/u.  Recent sputum cx with no growth.  Bronch on [**1-2**] showed mucous
   plugging.  Also had low grade temps on [**1-5**].
   - Appreciate ID reccs, have switched to Linezolid for MRSA PNA coverage
   rather than Vancomycin given it
s increased efficacy.   Continue
   linezolid for 14 days for MRSA PNA
 day 1- [**2167-12-30**], now day [**6-14**].
   - continue meropenem for 14 days
 day 1 [**2167-12-28**], now day [**8-15**].
   - continue caspofungin for [**Female First Name (un) 188**] in blood
 day 1 [**2167-12-26**], f/u
   sensitivities, now day [**10-15**].
   - Trend temp and WBC
   - Follow up blood cultures
   # Anemia: Hct decreased today to 21.1 on [**1-4**].  Patient was seen to have
   bleeding in her trachea on the bronch, now stabilized.  S/p 1u PRBC on
   [**1-3**].
   - Trend Hct
   - restarting heparin gtt
   - Guaiac stool.
   # LUE Swelling:  L >R, has anasraca so difficult to assess. Has been
   off heparin gtt in setting of neck hematoma. U/S several days agi was
   noted to be negative, however given the worsening of edema one the left
   side as well as the erythema and tenderness, ordered U/S for DVT.
   However, nevative for PE.
   - warfarm compresses to extremities
   #Protein C/S deficiency: Patient on coumadin as an outpatient, was on a
   heprin gtt due to recent procedures. Due to 3 point drop in hematocrit,
   heparin drip held.  Hct stable now and will restart anticoagulation
   with hep gtt for empiric tx of PE.
   - heparin gtt
   - Continue to hold coumadin pending discussion of trach given
   aspiration risk
   -  Will monitor PT, PTT, and INR q day
   #Chronic renal insufficiency: Patient had ARF initially, now improved
   with Cr of 1.6 lower than her reported baseline of 2.0. Pt likely had
   ATN secondary to septic shock. Baseline of ~2 per records.
   -Continue trending creatinine
   #Parkinson
s Disease: Stable. Continue carbidopa/levodopa and Requip
   #HTN: Stable this morning will continue Lasix gtt
   -Continue monitoring. Goal fluid balance for day = even or -500cc
   -Lasix PRN
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2168-1-4**] 07:50 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2167-12-28**] 06:53 PM
   Prophylaxis:
   DVT:  heparin 5000u SC
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2168-01-06 07:30:00 Physician Resident Progress Note
Chief Complaint: 73 y/o Female with PMH of Parkinson
s dz, Protein C/S
   deficiency, Multiple VTE off anticoag [**1-4**] RP hematoma wit IVC filter,
   CKD, s/p partieal colectomy with ostomy transferred to [**Hospital Unit Name 44**] for further
   management of septic shock and respiratory failure unable to be weaned
   off the vent.
   24 Hour Events:
   -Recruitment maneuvers performed with unclear benefit then patient put
   on 18 cm H2O of PEEP
   -Managed to ween from 60-->50% FiO2
   -Off furosemide drip for day due to potential for hypotension with
   maneuvers, restarted at 6 and still 1L positive for day at 9:00 pm so
   increased to 8/min around 22:00
   -started hep gtt for protein c/s deficiency
   Allergies:
   Morphine
   Unknown;
   Aspirin
   Unknown;
   Cephalosporins
   Unknown;
   Last dose of Antibiotics:
   Caspofungin - [**2168-1-4**] 06:10 PM
   Meropenem - [**2168-1-5**] 10:24 PM
   Linezolid - [**2168-1-6**] 02:00 AM
   Infusions:
   Fentanyl (Concentrate) - 100 mcg/hour
   Heparin Sodium - 1,350 units/hour
   Midazolam (Versed) - 6 mg/hour
   Furosemide (Lasix) - 9 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2168-1-5**] 08:08 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-1-6**] 07:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 81 (65 - 82) bpm
   BP: 93/44(54) {93/40(54) - 134/68(79)} mmHg
   RR: 20 (12 - 24) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 85.5 kg (admission): 95.8 kg
   Height: 59 Inch
    CVP: 7 (7 - 67)mmHg
   Total In:
                                                                  3,127 mL
                                                                  1,055 mL
   PO:
   TF:
                                                                    721 mL
                                                                    224 mL
   IVF:
                                                                  1,446 mL
                                                                    602 mL
   Blood products:
   Total out:
                                                                  2,218 mL
                                                                  1,440 mL
   Urine:
                                                                  1,543 mL
                                                                  1,320 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    909 mL
                                                                   -385 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 18 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 37 cmH2O
   Plateau: 33 cmH2O
   Compliance: 33.3 cmH2O/mL
   SpO2: 97%
   ABG: ///27/
   Ve: 9 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   194 K/uL
   7.8 g/dL
   126 mg/dL
   1.6 mg/dL
   27 mEq/L
   3.4 mEq/L
   31 mg/dL
   98 mEq/L
   136 mEq/L
   23.4 %
   5.5 K/uL
        [image002.jpg]
                             [**2168-1-1**]  08:27 PM
                             [**2168-1-2**]  04:11 AM
                             [**2168-1-2**]  04:23 AM
                             [**2168-1-2**]  04:35 PM
                             [**2168-1-3**]  03:28 AM
                             [**2168-1-3**]  04:39 PM
                             [**2168-1-4**]  04:08 AM
                             [**2168-1-5**]  01:17 AM
                             [**2168-1-5**]  03:53 AM
                             [**2168-1-6**]  04:30 AM
   WBC
   9.6
   10.7
   9.6
   8.8
   6.7
   5.5
   Hct
   22.6
   23.3
   21.1
   25.1
   23.6
   23.3
   23.4
   Plt
   221
   244
   221
   [**Telephone/Fax (3) 7864**]
   Cr
   1.6
   1.6
   1.5
   1.6
   1.6
   TCO2
   23
   22
   28
   Glucose
   123
   140
   131
   108
   126
   Other labs: PT / PTT / INR:14.0/63.2/1.2, ALT / AST:[**2-12**], Alk Phos / T
   Bili:79/0.2, Differential-Neuts:89.4 %, Band:2.0 %, Lymph:4.6 %,
   Mono:3.8 %, Eos:1.4 %, Lactic Acid:0.8 mmol/L, Albumin:3.2 g/dL,
   Ca++:8.4 mg/dL, Mg++:1.8 mg/dL, PO4:5.5 mg/dL
   Assessment and Plan
   73 y/o Female with PMH of Parkinson
s dz, Protein C/S deficiency,
   Multiple VTE off anticoag [**1-4**] RP hematoma wit IVC filter, CKD, s/p
   partieal colectomy with ostomy transferred to [**Hospital Unit Name 44**] for further
   management of septic shock and respiratory failure unable to be weaned
   off the vent.
   #Acute Respiratory failure: The patient was initially able to be weaned
   down to a PEEP of 8 following the bronchoscopy. Given the amount of
   secretions and blood suctioned from the bronchoscopy pt
s PEEP
   dependance may be due to the amount of secretions she has in her lungs.
   On [**2168-1-5**] overnight, patient desatted to 90% on vent and required
   increase of PEEP from 10 to 12 and FiO2 increase to 70% from 60%.
   Recruitment maneuvers and repositioning unsuccessful.  Possible
   etiologies for worsening hypoxia include atelectasis, CHF, and PE.   On
   [**2168-1-5**], put on 18 PEEP with improvement in clarity of CXR and reduction
   in FiO2.
   - continue empiric anticoagulation with heparin gtt for possible PE
   - Will attempt PS on [**2167-12-7**] with plan for rapid extubation
   - bronchoscopy today to help clear any mucous plugging that may be
   causing LLL collapse
   - CVP and renal function normal so will continue with gentle diuresis
   with lasix gtt with goal of even to -500cc
   - suctioning as needed for mucous plugging
   - Treatment of infection as below
   # Sepsis: Leukocytosis and now trending downwards today. Sources
   previously found to be Gram negative rods in urine and sputum, and MRSA
   in her sputum. Sputum culture sensitivity shows sensitivity to
   meropenem, zosyn, and cephalosporins. Pt unfortunately has an allergy
   to beta lactams.  Pt also noted to have a positive fungal culture from
   [**12-23**], her subsequent bld cultures have not been positive however even
   with one positive result fungemia is a concern. Pt was started on
   Caspofungin over the weekend, ID was consulted and and signed off.
   Sensitivities for Voriconazole and Fluconazole have been ordered will
   f/u.  Recent sputum cx with no growth.  Bronch on [**1-2**] showed mucous
   plugging.  Also had low grade temps on [**2168-1-5**].
   - Appreciate ID reccs, have switched to Linezolid for MRSA PNA coverage
   rather than Vancomycin given it
s increased efficacy.   Continue
   linezolid for 14 days for MRSA PNA
 day 1- [**2167-12-30**], now day [**7-15**].
   - continue meropenem for 14 days
 day 1 [**2167-12-28**], now day [**9-14**].
   - continue caspofungin for [**Female First Name (un) 188**] in blood
 day 1 [**2167-12-26**], f/u
   sensitivities, now day [**11-14**].
   - Trend temp and WBC
   - Follow up blood cultures
   # Anemia: Hct decreased today to 21.1 on [**1-4**].  Patient was seen to have
   bleeding in her trachea on the bronch, now stabilized.  S/p 1u PRBC on
   [**1-3**].  Restarted hep gtt on [**2167-12-5**] for ?PE but hct stable.
   - Trend Hct
   - cont heparin gtt
   - Guaiac stool.
   # LUE Swelling:  L >R, has anasraca so difficult to assess. Has been
   off heparin gtt in setting of neck hematoma. U/S several days agi was
   noted to be negative, however given the worsening of edema one the left
   side as well as the erythema and tenderness, ordered U/S for DVT.
   However, nevative for PE.
   - warfarm compresses to extremities
   #Protein C/S deficiency: Patient on coumadin as an outpatient, was on a
   heprin gtt due to recent procedures. Due to 3 point drop in hematocrit,
   heparin drip held.  Hct stable now and will restart anticoagulation
   with hep gtt for empiric tx of PE.
   - heparin gtt
   - Continue to hold coumadin pending discussion of trach given
   aspiration risk
   - Will monitor PT, PTT, and INR q day
   #Chronic renal insufficiency: Patient had ARF initially, now improved
   with Cr of 1.6 lower than her reported baseline of 2.0. Pt likely had
   ATN secondary to septic shock. Baseline of ~2 per records.
   -Continue trending creatinine
   #Parkinson
s Disease: Stable. Continue carbidopa/levodopa and Requip
   #HTN: Stable this morning will continue Lasix gtt
   -Continue monitoring. Goal fluid balance for day = even or -500cc
   -Lasix PRN
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2168-1-5**] 05:05 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2167-12-28**] 06:53 PM
   Prophylaxis:
   DVT:  heparin gtt
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2168-01-06 14:29:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   Sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   With PEEP increase to 18 FIO2 able to be weaned to 0.4
   I/O even
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Morphine
   Unknown;
   Aspirin
   Unknown;
   Cephalosporins
   Unknown;
   Last dose of Antibiotics:
   Caspofungin - [**2168-1-4**] 06:10 PM
   Linezolid - [**2168-1-6**] 02:00 AM
   Meropenem - [**2168-1-6**] 08:15 AM
   Infusions:
   Midazolam (Versed) - 7 mg/hour
   Furosemide (Lasix) - 9 mg/hour
   Heparin Sodium - 1,350 units/hour
   Fentanyl (Concentrate) - 100 mcg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2168-1-6**] 08:17 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-1-6**] 02:29 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (99
   HR: 67 (67 - 84) bpm
   BP: 104/56(68) {93/40(54) - 134/68(79)} mmHg
   RR: 20 (12 - 24) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 85.5 kg (admission): 95.8 kg
   Height: 59 Inch
   CVP: 10 (7 - 54)mmHg
   Total In:
                                                                  3,128 mL
                                                                  1,985 mL
   PO:
   TF:
                                                                    721 mL
                                                                    426 mL
   IVF:
                                                                  1,447 mL
                                                                  1,030 mL
   Blood products:
   Total out:
                                                                  2,218 mL
                                                                  2,060 mL
   Urine:
                                                                  1,543 mL
                                                                  1,790 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    910 mL
                                                                    -75 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 18 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 37 cmH2O
   Plateau: 30 cmH2O
   Compliance: 41.7 cmH2O/mL
   SpO2: 96%
   ABG: ///27/
   Ve: 9.1 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube
   Cardiovascular: (PMI Hyperdynamic), (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.8 g/dL
   194 K/uL
   124
   1.6 mg/dL
   27 mEq/L
   3.4 mEq/L
   31 mg/dL
   98 mEq/L
   136 mEq/L
   23.4 %
   5.5 K/uL
        [image002.jpg]
                             [**2168-1-2**]  04:11 AM
                             [**2168-1-2**]  04:23 AM
                             [**2168-1-2**]  04:35 PM
                             [**2168-1-3**]  03:28 AM
                             [**2168-1-3**]  04:39 PM
                             [**2168-1-4**]  04:08 AM
                             [**2168-1-5**]  01:17 AM
                             [**2168-1-5**]  03:53 AM
                             [**2168-1-6**]  04:30 AM
                             [**2168-1-6**]  12:00 PM
   WBC
   9.6
   10.7
   9.6
   8.8
   6.7
   5.5
   Hct
   22.6
   23.3
   21.1
   25.1
   23.6
   23.3
   23.4
   Plt
   221
   244
   221
   [**Telephone/Fax (3) 7864**]
   Cr
   1.6
   1.6
   1.5
   1.6
   1.6
   TCO2
   22
   28
   Glucose
   123
   140
   131
   108
   126
   124
   Other labs: PT / PTT / INR:14.0/61.7/1.2, ALT / AST:[**2-12**], Alk Phos / T
   Bili:79/0.2, Differential-Neuts:89.4 %, Band:2.0 %, Lymph:4.6 %,
   Mono:3.8 %, Eos:1.4 %, Lactic Acid:0.8 mmol/L, Albumin:3.2 g/dL,
   Ca++:8.4 mg/dL, Mg++:1.8 mg/dL, PO4:5.5 mg/dL
   Imaging: CXR--Some substantial improvement in right sided opacities in
   the setting of PEEP increase.
   Assessment and Plan
   73 yo female admit with E. Coli sepsis with cultures positive from lung
   and urine.  She has had prolonged course of intubation with persistent
   hypoxemia secondary to volume overload and atelectasis.
   Respiratory Failure-
   -Will evaluate for possible effusions as contributor to persistent
   failure
   -Will move to ventilator weaning in PSV mode with start from elevated
   PEEP
   -FIO2 to remain at 0.4
   -Will provide bronchoscopy for clearance of secretions in LLL which may
   be preventing re-expansion to allow optimization
   -Rapid wean following bronch and optimization of PEEP and oxygenation
   Sepsis-
   Patient with continued antibiotics and are at
   D#8-Linezolid
   Additional antibtiotics are at similar course to be completed by Friday
 .H/O HYPERNATREMIA (HIGH SODIUM)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2168-1-5**] 05:05 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2167-12-28**] 06:53 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2168-01-07 07:48:00 Physician Resident Progress Note
Chief Complaint: 73 y/o Female with PMH of Parkinson
s dz, Protein C/S
   deficiency, Multiple VTE off anticoag [**1-4**] RP hematoma wit IVC filter,
   CKD, s/p partieal colectomy with ostomy transferred to [**Hospital Unit Name 44**] for further
   management of septic shock and respiratory failure unable to be weaned
   off the vent.
   24 Hour Events:
 BRONCHOSCOPY - At [**2168-1-6**] 04:00 PM
   -No diuresis due to pressure of 90/40 at 8pm
   -bronch in afternoon showed no abnormalities
   -health care proxy aware of plane for extubation in the am, and no
   reintubation should she fail extubation
   - FiO2 weaned to 40%. Still on a/c
   -remains on hep gtt, lasix gtt at 9/hr
   Allergies:
   Morphine
   Unknown;
   Aspirin
   Unknown;
   Cephalosporins
   Unknown;
   Last dose of Antibiotics:
   Linezolid - [**2168-1-6**] 02:00 AM
   Meropenem - [**2168-1-6**] 08:15 AM
   Caspofungin - [**2168-1-6**] 05:59 PM
   Infusions:
   Fentanyl (Concentrate) - 100 mcg/hour
   Midazolam (Versed) - 7 mg/hour
   Heparin Sodium - 1,500 units/hour
   Furosemide (Lasix) - 9 mg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2168-1-6**] 08:17 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-1-7**] 07:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.2
C (98.9
   HR: 70 (64 - 84) bpm
   BP: 93/42(54) {93/40(54) - 125/66(81)} mmHg
   RR: 20 (13 - 28) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 85.5 kg (admission): 95.8 kg
   Height: 59 Inch
    CVP: 6 (6 - 10)mmHg
   Total In:
                                                                  3,223 mL
                                                                    841 mL
   PO:
   TF:
                                                                    723 mL
                                                                    233 mL
   IVF:
                                                                  1,490 mL
                                                                    408 mL
   Blood products:
   Total out:
                                                                  3,365 mL
                                                                  1,420 mL
   Urine:
                                                                  2,920 mL
                                                                  1,020 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -142 mL
                                                                   -579 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 20
   PEEP: 18 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 33 cmH2O
   Plateau: 30 cmH2O
   Compliance: 41.7 cmH2O/mL
   SpO2: 96%
   ABG: ///28/
   Ve: 9.3 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   207 K/uL
   7.7 g/dL
   131 mg/dL
   1.5 mg/dL
   28 mEq/L
   2.9 mEq/L
   29 mg/dL
   97 mEq/L
   134 mEq/L
   22.8 %
   4.4 K/uL
        [image002.jpg]
                             [**2168-1-2**]  04:23 AM
                             [**2168-1-2**]  04:35 PM
                             [**2168-1-3**]  03:28 AM
                             [**2168-1-3**]  04:39 PM
                             [**2168-1-4**]  04:08 AM
                             [**2168-1-5**]  01:17 AM
                             [**2168-1-5**]  03:53 AM
                             [**2168-1-6**]  04:30 AM
                             [**2168-1-6**]  12:00 PM
                             [**2168-1-7**]  04:31 AM
   WBC
   10.7
   9.6
   8.8
   6.7
   5.5
   4.4
   Hct
   23.3
   21.1
   25.1
   23.6
   23.3
   23.4
   22.8
   Plt
   244
   221
   228
   [**Telephone/Fax (3) 7887**]
   Cr
   1.6
   1.5
   1.6
   1.6
   1.5
   TCO2
   22
   28
   Glucose
   140
   131
   108
   126
   124
   131
   Other labs: PT / PTT / INR:14.0/57.3/1.2, ALT / AST:[**2-12**], Alk Phos / T
   Bili:79/0.2, Differential-Neuts:89.4 %, Band:2.0 %, Lymph:4.6 %,
   Mono:3.8 %, Eos:1.4 %, Lactic Acid:0.8 mmol/L, Albumin:3.2 g/dL,
   Ca++:8.3 mg/dL, Mg++:2.1 mg/dL, PO4:4.8 mg/dL
   Assessment and Plan
   73 y/o Female with PMH of Parkinson
s dz, Protein C/S deficiency,
   Multiple VTE off anticoag [**1-4**] RP hematoma wit IVC filter, CKD, s/p
   partieal colectomy with ostomy transferred to [**Hospital Unit Name 44**] for further
   management of septic shock and respiratory failure unable to be weaned
   off the vent.
   #Acute Respiratory failure: The patient was initially able to be weaned
   down to a PEEP of 8 following the bronchoscopy. Given the amount of
   secretions and blood suctioned from the bronchoscopy pt
s PEEP
   dependance may be due to the amount of secretions she has in her lungs.
   On [**2168-1-5**] overnight, patient desatted to 90% on vent and required
   increase of PEEP from 10 to 12 and FiO2 increase to 70% from 60%.
   Recruitment maneuvers and repositioning unsuccessful.  Possible
   etiologies for worsening hypoxia include atelectasis, CHF, and PE.   On
   [**2168-1-5**], put on 18 PEEP with improvement in clarity of CXR and reduction
   in FiO2.
   - continue empiric anticoagulation with heparin gtt for possible PE
   - Will attempt PS on [**2168-1-7**] with plan for rapid extubation if tolerated
   after discussing with family
   - bronchoscopy today to help clear any mucous plugging that may be
   causing LLL collapse
   - CVP and renal function normal so will continue with gentle diuresis
   with lasix gtt with goal of even to -500cc
   - suctioning as needed for mucous plugging
   - Treatment of infection as below
   # Sepsis: Leukocytosis and now trending downwards today. Sources
   previously found to be Gram negative rods in urine and sputum, and MRSA
   in her sputum. Sputum culture sensitivity shows sensitivity to
   meropenem, zosyn, and cephalosporins. Pt unfortunately has an allergy
   to beta lactams.  Pt also noted to have a positive fungal culture from
   [**12-23**], her subsequent bld cultures have not been positive however even
   with one positive result fungemia is a concern. Pt was started on
   Caspofungin over the weekend, ID was consulted and and signed off.
   Sensitivities for Voriconazole and Fluconazole have been ordered will
   f/u.  Recent sputum cx with no growth.  Bronch on [**1-2**] showed mucous
   plugging.  Also had low grade temps on [**2168-1-5**].
   - Appreciate ID reccs, have switched to Linezolid for MRSA PNA coverage
   rather than Vancomycin given it
s increased efficacy.   Continue
   linezolid for 14 days for MRSA PNA
 day 1- [**2167-12-30**], now day [**8-15**].
   - continue meropenem for 14 days
 day 1 [**2167-12-28**], now day [**10-15**].
   - continue caspofungin for [**Female First Name (un) 188**] in blood
 day 1 [**2167-12-26**], f/u
   sensitivities, now day 13/14.
   - Trend temp and WBC
   - Follow up blood cultures
   # Anemia: Hct decreased today to 21.1 on [**1-4**].  Patient was seen to have
   bleeding in her trachea on the bronch, now stabilized.  S/p 1u PRBC on
   [**1-3**].  Restarted hep gtt on [**2167-12-5**] for ?PE but hct stable.
   - Trend Hct
   - cont heparin gtt
   - Guaiac stool.
   # Hypokalemia:  will recheck potassium in p.m.
   # LUE Swelling:  L >R, has anasraca so difficult to assess. Has been
   off heparin gtt in setting of neck hematoma. U/S several days agi was
   noted to be negative, however given the worsening of edema one the left
   side as well as the erythema and tenderness, ordered U/S for DVT.
   However, nevative for PE.
   - warm compresses to extremities
   #Protein C/S deficiency: Patient on coumadin as an outpatient, was on a
   heprin gtt due to recent procedures. Due to 3 point drop in hematocrit,
   heparin drip held.  Hct stable now and will restart anticoagulation
   with hep gtt for empiric tx of PE.
   - heparin gtt
   - Continue to hold coumadin pending discussion of trach given
   aspiration risk
   - Will monitor PT, PTT, and INR q day
   #Chronic renal insufficiency: Patient had ARF initially, now improved
   with Cr of 1.6 lower than her reported baseline of 2.0. Pt likely had
   ATN secondary to septic shock. Baseline of ~2 per records.
   -Continue trending creatinine
   #Parkinson
s Disease: Stable. Continue carbidopa/levodopa and Requip
   #HTN: Stable this morning will continue Lasix gtt
   -Continue monitoring. Goal fluid balance for day = even or -500cc
   -Lasix PRN
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2168-1-7**] 02:18 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2167-12-28**] 06:53 PM
   Prophylaxis:
   DVT: hep gtt
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2168-01-07 12:14:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   Sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BRONCHOSCOPY - At [**2168-1-6**] 04:00 PM
   -Minimal Secreations noted
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Morphine
   Unknown;
   Aspirin
   Unknown;
   Cephalosporins
   Unknown;
   Last dose of Antibiotics:
   Linezolid - [**2168-1-6**] 02:00 AM
   Caspofungin - [**2168-1-6**] 05:59 PM
   Meropenem - [**2168-1-7**] 08:52 AM
   Infusions:
   Heparin Sodium - 1,500 units/hour
   Furosemide (Lasix) - 9 mg/hour
   Fentanyl (Concentrate) - 100 mcg/hour
   Midazolam (Versed) - 7 mg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2168-1-7**] 08:53 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Flowsheet Data as of  [**2168-1-7**] 12:07 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.1
C (98.8
   HR: 80 (64 - 82) bpm
   BP: 129/63(80) {93/40(54) - 129/66(81)} mmHg
   RR: 17 (13 - 28) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 85.5 kg (admission): 95.8 kg
   Height: 59 Inch
   CVP: 5 (5 - 6)mmHg
   Total In:
                                                                  3,226 mL
                                                                  1,612 mL
   PO:
   TF:
                                                                    723 mL
                                                                    361 mL
   IVF:
                                                                  1,494 mL
                                                                    711 mL
   Blood products:
   Total out:
                                                                  3,365 mL
                                                                  2,940 mL
   Urine:
                                                                  2,920 mL
                                                                  2,340 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -139 mL
                                                                 -1,328 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 20
   PEEP: 18 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 33 cmH2O
   Plateau: 26 cmH2O
   Compliance: 62.5 cmH2O/mL
   SpO2: 93%
   ABG: ///28/
   Ve: 8.8 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   Cardiovascular: (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.7 g/dL
   207 K/uL
   131 mg/dL
   1.5 mg/dL
   28 mEq/L
   2.9 mEq/L
   29 mg/dL
   97 mEq/L
   134 mEq/L
   22.8 %
   4.4 K/uL
        [image002.jpg]
                             [**2168-1-2**]  04:23 AM
                             [**2168-1-2**]  04:35 PM
                             [**2168-1-3**]  03:28 AM
                             [**2168-1-3**]  04:39 PM
                             [**2168-1-4**]  04:08 AM
                             [**2168-1-5**]  01:17 AM
                             [**2168-1-5**]  03:53 AM
                             [**2168-1-6**]  04:30 AM
                             [**2168-1-6**]  12:00 PM
                             [**2168-1-7**]  04:31 AM
   WBC
   10.7
   9.6
   8.8
   6.7
   5.5
   4.4
   Hct
   23.3
   21.1
   25.1
   23.6
   23.3
   23.4
   22.8
   Plt
   244
   221
   228
   [**Telephone/Fax (3) 7887**]
   Cr
   1.6
   1.5
   1.6
   1.6
   1.5
   TCO2
   22
   28
   Glucose
   140
   131
   108
   126
   124
   131
   Other labs: PT / PTT / INR:14.0/57.3/1.2, ALT / AST:[**2-12**], Alk Phos / T
   Bili:79/0.2, Differential-Neuts:89.4 %, Band:2.0 %, Lymph:4.6 %,
   Mono:3.8 %, Eos:1.4 %, Lactic Acid:0.8 mmol/L, Albumin:3.2 g/dL,
   Ca++:8.3 mg/dL, Mg++:2.1 mg/dL, PO4:4.8 mg/dL
   Imaging: CXR--Mild rotation, left LL suggested and ETT and CVL in place
   Assessment and Plan
   73 yo female with history of Parkinson's Disease now with improved
   aeration and oxygenation with PEEP and bronchoscopy showing minimal
   residual secretions in airways.  She has had minimal fevers or
   persistent infection.  Her renal function has remained "stable" with
   continued negative fluid balance.  This all would suggest that patient
   1).H/O HYPERNATREMIA (HIGH SODIUM)
   2) SEPSIS WITHOUT ORGAN DYSFUNCTION-
   -Caspofungin/Linezolid/Meropenem to continue
   3) RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])--Patient with improved
   oxygenation with prolonged elevated PEEP and clearance of secretions
   and recruitment.  Ventilation has remained adequate.  Will move to PSV
   wean today.
   -PSV wean starting with 10/14
   -Will wean PEEP first to goal of 5 and if able to oxygenate on that
   4)Parkinson's Disease-
   Sinement, Ropinorole
   _Protein C+S Deficiency-
   -Return to IV Heparin
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2168-1-7**] 02:18 AM 30 mL/hour
will hold today
   for possible extubation this evening
   Glycemic Control:
   Lines:
   Multi Lumen - [**2167-12-28**] 06:53 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR
   Disposition :ICU
   Total time spent: 40